2141-06-09 07:15:00 Physician Resident Progress Note
Chief Complaint: sepis
   24 Hour Events:
   Overnight treated sepsis with ABX, on Levofed and fluid boluses to keep
   MAP >65 and CVP >10.  monitoring Cr.
   Weaning down on levofed, now at 0.3
   Subjective:
   Patient reports that she feels better this morning.  Denies F/C/N/V, no
   CP, no SOB.  She reports being hungry and thirsty.   Patient has not
   had bowel movement since she took immodium yesterday morning prior to
   presenting to the hospital.  She took 2 pills at that time.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2141-6-8**] 11:13 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-6-8**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-9**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 105 (86 - 105) bpm
   BP: 93/42(55) {82/36(50) - 117/58(69)} mmHg
   RR: 23 (0 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (10 - 16)mmHg
   Total In:
                                                                  1,221 mL
                                                                  1,601 mL
   PO:
                                                                     60 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,161 mL
                                                                  1,571 mL
   Blood products:
   Total out:
                                                                  3,465 mL
                                                                     85 mL
   Urine:
                                                                    465 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,244 mL
                                                                  1,516 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99% 3L
   ABG: ///22/
   Physical Examination
   Gen: alert & Oriented, NAD.
   HEENT:  pharynx has dry mucosa, no erythema
   CV:  RRR, S1 & S2 nl, no murmurs appreciated
   Lungs: CTA anteriorly
   Abd: distended abdomen. + BS, TTP in epigastrium, + rebound. No masses,
   no HSM appreciated.
   Ext: bilat tibial edema.
   Labs / Radiology
   369 K/uL
   9.5 g/dL
   117 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.7 mEq/L
   16 mg/dL
   103 mEq/L
   135 mEq/L
   29.6 %
   22.3 K/uL
        [image002.jpg]
                             [**2141-6-8**]  09:24 PM
                             [**2141-6-9**]  03:22 AM
   WBC
   22.3
   Hct
   29.6
   Plt
   369
   Cr
   1.2
   1.1
   TropT
   <0.01
   Glucose
   117
   Other labs: PT / PTT / INR:34.4/38.4/3.6,
   CK / CKMB / Troponin-T:26/2/<0.01,
   Differential-Neuts:60.0 %, Band:34.0 %, Lymph:0.0 %, Mono:5.0 %,
   Eos:0.0 %,
    Lactic Acid:1.2 mmol/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   ASSESSMENT/PLAN: 85 yo female with recent admission for C. diff
   colitis, admitted with sepsis in the setting of recurrent diarrhea.
   .
   #. Sepsis/Fevers/Leukocytosis: source most likely GI and from recurrent
   C. diff given severely elevated WBC.  UA weakly c/w infection but pt
   asymptomatic; CXR with possible b/l infiltrates but more likely
   atalectasis given small-ish lung volumes and lack of [**Last Name (un) **] sx.  Ischemic
   bowel with possible gut translocation also a consideration, though less
   likely given lack of pain/cramping and gross blood loss PR.
   -- f/u urine, blood cultures
   -- will obtain C. diff assay and will place on precautions
   -- will cover broadly with vanco/flagyl IV and cipro
   --Will add PO Vanco.
   --patient seems hypovolemic on exam
 will bolus 2L NS now and then try
   to wean levofed again.
   -- goal CVP 10 - 12; goal MAPs > 65 per sepsis protocol (note: pateint
   hypertensive at baseline)
   -- monitor lactate
   -- will hold home lasix and HTN meds for now
   -- CT A/P for ischemic bowel.
   -- compazine for nausea control
   .
   #. ? ARF: no clear recent baseline in computer, but likely some
   prerenal ARF.  (one note documented baseline Cr at 1.4, but not
   certain).  UOP poor currently
   -- will monitor with administration of IVF
   -- will pre-hydrate for CT scan and treat with mucomist prior to scan.
   .
   #. Elevated INR: likely [**1-7**] diarrhea and possibly poor PO intake
   (though patient denied poor PO intake).
   -- monitor; will reverse if bleeding begins or INR worsens
   -- hold coumadin
   #. Hypertension: chronically on lisinopril and metoprolol
   -- will hold for now while septic
   #. FEN: IVF per sepsis protocol as above; NPO except meds due to
   continued abdominal pain and concern for bowel ischemia.
   #Patient on coumadin as outpatient for AFIb (confusing med rec b/c not
   listed in OMR or on med list on last d/c summary b/c was held on
   discharge).   INR supratherapeutic on admission in light of
   diarrhea/poor PO intake.
   -- hold coumadin tonight
   .
   #. PPX
   -- SQH
   -- protonix (takes nexium at home)
   -- will defer bowel regimen while with diarrhea
   .
   #Access
 currently has central line and 2 PIVs.  Consider adding
   A-line if can
t wean off levo after fluid bolus.
   #. CONTACT: no family; HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   20 Gauge - [**2141-6-8**] 08:40 PM
   18 Gauge - [**2141-6-8**] 08:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-06-10 07:29:00 Physician Resident Progress Note
Chief Complaint: C. diff septic shock
   24 Hour Events:
   Levophed changed to neo @2320 due to tachycardia (110s-120s/min),
   currently @ 2 mcg/kg/min
   Held off on plan to amio load for AFib with RVR when pressors changed
   R radial A-line placed
   CT abd/pelvis revealed pancolitis with dilated T colon, c/f toxic
   megacolon and ischemic colitis. In light of CT findings, and rising WBC
   and lactate levels, surgery consented patient for colectomy with likely
   ileostomy on AM [**6-10**]. INR 6 reversed initially with vitamin K 2 g IV,
   repeat INR 2.7, 3 U FFP to be given for goal INR 1.5-2.0.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-9**] 08:30 AM
   Ciprofloxacin - [**2141-6-9**] 11:00 AM
   Metronidazole - [**2141-6-9**] 04:00 PM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain, Diarrhea
   Flowsheet Data as of  [**2141-6-10**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.9
C (96.6
   HR: 114 (107 - 131) bpm
   BP: 100/56(74) {77/45(57) - 109/64(80)} mmHg
   RR: 19 (16 - 34) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 7 (6 - 16)mmHg
   Total In:
                                                                  8,949 mL
                                                                  3,382 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                  8,324 mL
                                                                  3,382 mL
   Blood products:
   Total out:
                                                                    898 mL
                                                                     73 mL
   Urine:
                                                                    498 mL
                                                                     73 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  8,051 mL
                                                                  3,309 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: Conjunctiva pale
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine bibasilar)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffusely,
   tense
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   409 K/uL
   10.2 g/dL
   109 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.0 mEq/L
   18 mg/dL
   107 mEq/L
   133 mEq/L
   31.9 %
   31.3 K/uL
        [image002.jpg]
                             [**2141-6-8**]  09:24 PM
                             [**2141-6-9**]  03:22 AM
                             [**2141-6-9**]  05:17 PM
                             [**2141-6-9**]  08:18 PM
                             [**2141-6-10**]  12:00 AM
                             [**2141-6-10**]  05:17 AM
   WBC
   22.3
   29.9
   31.3
   Hct
   29.6
   31.2
   34.1
   31.9
   Plt
   [**Telephone/Fax (3) 3469**]09
   Cr
   1.2
   1.1
   1.0
   1.1
   1.1
   1.2
   TropT
   <0.01
   Glucose
   117
   109
   104
   103
   109
   Other labs: PT / PTT / INR:52.1/45.3/6.0, CK / CKMB /
   Troponin-T:26/2/<0.01, Differential-Neuts:84.0 %, Band:8.0 %, Lymph:1.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:4.0 mmol/L, Albumin:2.5 g/dL,
   Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: [**6-9**] CT ABD/pelvis w/ contrast - There is marked wall
   thickening with thumbprinting and intramural edema throughout most of
   the colon, particularly involving the ascending and transverse colon,
   with a small amount of ascites and mesenteric stranding in the right
   lower quadrant. As seen on the most recent radiograph,
   portions of the transverse colon are dilated up to approximately 6.5
   cm, an
   appearance which raises concern for toxic megacolon.
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock in the
   setting of recurrent C. diff colitis
   .
   #C. diff septic shock - substantial pressor requirement despite
   aggressive volume repletion, however maintaining adequate oxygenation
   without supplemental O2; evidence of ischemic bowel/megacolon on CT
   with worsening lactatemia, leukocytosis
   -cont. with aggressive volume repletion; higher preload requirement [**1-7**]
   hyperdynamic LV/dystolic dysfunction
   -titrate neo to maintain MAP >65
   -OR today for colectomy/ileostomy
   -Cont. PO vanco, IV flagyl
   -repeat c. diff toxin pending
   -contact precautions
   .
   #Coagulopathy - on outpatient coumadin, was supratherapeutic on
   admission, now INR 6.0 pre-op, surgery aware
   -2 mg IV vit K
   -3 U FFP f/b repeat coags
   .
   #AFib w/ RVR
   -Consider amio load if HD stable post-op
   .
    #ARF: UOP inadequate since midnight despite as patient is
   third-spacing massive amounts of fluid and underperfusing; likely too
   soon for CIARF and patient did receive mucomyst before and after CT
   scan
   - will cont. to give aggressive volume repletion and monitor UOP
   -consider checking bladder pressure if UOP does not improve
   .
   #. HTN:
   -holding antihypertensives for now
   .
   #. F/E/N:
   -Cont. to replete volume with LR boluses to avoid expansion acidosis
   seen with NS; stable oxygenation on RA without compromise by pulm edema
   -NPO for surgery
   .
   #PPx - venodynes, PPI
   .
   #Access
 currently has R IJ and 2 PIVs, R radial A-line
   .
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**]
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition: NPO for surgery
   Glycemic Control:  Blood sugar well controlled
   Lines: R IJ, 2 PIV, R radial a-line
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Arterial Line - [**2141-6-9**] 09:40 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2141-06-11 05:39:00 Physician Resident Progress Note
Chief Complaint:  C. diff septic shock (s/p colectomy [**2141-6-10**])
   24 Hour Events:
 OR SENT - At [**2141-6-10**] 10:15 AM
 OR RECEIVED - At [**2141-6-10**] 02:00 PM
   Pt underwent colectomy [**2141-6-10**]
   Pt required nearly 15L IVF to maintain BP and UOP peri and post-op.
   Pt hct responded well to 1 unit pRBC postop. (27
32.9)
   Pt was successfully weaned of levophed.
   Pt started on low dose lopressor this am for tachycardia.
   Pt switched to Pressure Support ventilation this am.
   ABG(prior to PS vent) [**2141-6-11**]: 7.36/40/97/24/-2
   Lactate [**2141-6-11**]: 1.8
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-9**] 08:30 AM
   Ciprofloxacin - [**2141-6-10**] 10:21 PM
   Metronidazole - [**2141-6-11**] 03:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-11**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 125 (99 - 125) bpm
   BP: 118/54(75) {78/48(65) - 136/71(98)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 66%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 12 (9 - 17)mmHg
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                 15,136 mL
                                                                  3,179 mL
   PO:
   TF:
   IVF:
                                                                 13,076 mL
                                                                  3,179 mL
   Blood products:
                                                                  2,060 mL
   Total out:
                                                                  1,761 mL
                                                                    227 mL
   Urine:
                                                                    761 mL
                                                                    165 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 13,375 mL
                                                                  2,952 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 448 (448 - 448) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   Compliance: 52.3 cmH2O/mL
   SpO2: 66%
   ABG: 7.36/40/96.[**Numeric Identifier 244**]/22/-2
   Ve: 8.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: NAD, sedated
   CV: tachycardic, reg rhythm, no M/R/G
   Lungs: nonlabored, on PS ventilation, mild scattered rhonchi
   Abd: soft, very distended, nontender, +bs, NG tube to suction, ostomy
   with minimal serosanguinous drainage
   Ext: radial pulses 2+, warm, dry, 1+ LE edema
   Labs / Radiology
   289 K/uL
   11.2 g/dL
   102 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.3 mEq/L
   18 mg/dL
   107 mEq/L
   135 mEq/L
   32.9 %
   34.9 K/uL
        [image002.jpg]
                             [**2141-6-10**]  12:07 PM
                             [**2141-6-10**]  12:09 PM
                             [**2141-6-10**]  03:20 PM
                             [**2141-6-10**]  03:25 PM
                             [**2141-6-10**]  06:02 PM
                             [**2141-6-10**]  06:05 PM
                             [**2141-6-11**]  12:30 AM
                             [**2141-6-11**]  03:04 AM
                             [**2141-6-11**]  04:48 AM
                             [**2141-6-11**]  05:03 AM
   WBC
   23.2
   28.8
   34.9
   Hct
   27
   29.1
   27.9
   31.1
   32.9
   Plt
   [**Telephone/Fax (3) 3495**]
   Cr
   1.2
   1.0
   1.1
   TCO2
   16
   21
   21
   22
   24
   Glucose
   154
   137
   102
   Other labs: PT / PTT / INR:15.3/32.6/1.4, CK / CKMB /
   Troponin-T:26/2/<0.01, Differential-Neuts:89.0 %, Band:7.0 %, Lymph:1.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:508 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock in the
   setting of recurrent C. diff colitis
   #C. diff septic shock
 definitive tx [**2141-6-10**] with colectomy.  Pt
   required several liters IVF peri and post-op to maintain BP and UOP.
   - BP currently stable without the use of pressors;
    -higher preload requirement [**1-7**] hyperdynamic LV/dystolic dysfunction
   - Cont. IV vanco, IV flagyl, and cipro
   -repeat c. diff toxin positive
   -cont. contact precautions
   #Hypokalemia: stable; continue sliding scale K+ per surgery recs
   # tachycardia:  HR 110-130;
   current sedation/pain management with versed and fentanyl;  Increase
   range of fentanyl
   If not responsive to increased fentanyl start lopressor IV 2.5 mg QID
   prn tachycardia
   #Coagulopathy - on outpatient coumadin, was supratherapeutic on
   admission, INR 6.0 pre-op, given 2mg IV vit K and 3 U FFP; EBL during
   surgery 1 liter.
   [**2141-6-11**] INR 1.2
   [**2141-6-11**] Hct  32.9.
   #AFib w/ RVR
   -Consider amio load if HD stable and tachycardia persists post-op\
   - Hold coumadin and hep gtt @ this time
   #Respiratory distress:  pt switched from AC ventilation to PS this
   morning.  Pt did well but in the face of recent  large volume
   rescusitation will not be extubated today so was placed back on AC
   ventilation (VT: 4-6cc/kg; PEEP 10)
    #ARF: Creatinine 1.1 post large fluid resuscitation.
   Current UOP ranging from 20-30cc/hr despite large volume
   resuscitation.
   Attempt to maintain UOP > 20cc/hr per surgery recs.
   Measure Bladder pressure to help determine extent of third spacing in
   the abdomen.
   Try to refrain from large IVF boluses unless necessary to maintain BP.
   Discuss with holding maintenance IVF with surgery team
   Order UA
   Order Urine electrolytes
   .
   #. HTN:  controlled
   #. F/E/N:
   - Discuss initiating TPN  with surgery team
   - NGT to suction
   .
   #PPx - venodynes, PPI
   #Access
 currently has R IJ and 2 PIVs, R radial A-line
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**]
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Arterial Line - [**2141-6-9**] 09:40 PM
   20 Gauge - [**2141-6-10**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-06-12 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-11**] 08:00 AM
   Ciprofloxacin - [**2141-6-11**] 09:52 PM
   Metronidazole - [**2141-6-12**] 04:18 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2141-6-11**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-12**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 117 (97 - 125) bpm
   BP: 118/56(76) {95/56(68) - 131/71(90)} mmHg
   RR: 25 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.5 kg (admission): 95 kg
   Height: 68 Inch
    CVP: 14 (9 - 19)mmHg
   Bladder pressure: 16 (5 - 16) mmHg
   Total In:
                                                                  7,735 mL
                                                                    308 mL
   PO:
   TF:
   IVF:
                                                                  7,735 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                    225 mL
   Urine:
                                                                    470 mL
                                                                    170 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  7,153 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 440) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.34/40/108/20/-3
   Ve: 10 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bibasilar)
   Abdominal: Soft, Non-tender, Distended, Obese, absent BS
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Non
   -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   201 K/uL
   10.2 g/dL
   78 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   17 mg/dL
   107 mEq/L
   133 mEq/L
   30.7 %
   26.8 K/uL
        [image002.jpg]
                             [**2141-6-10**]  06:02 PM
                             [**2141-6-10**]  06:05 PM
                             [**2141-6-11**]  12:30 AM
                             [**2141-6-11**]  03:04 AM
                             [**2141-6-11**]  04:48 AM
                             [**2141-6-11**]  05:03 AM
                             [**2141-6-11**]  04:15 PM
                             [**2141-6-11**]  05:03 PM
                             [**2141-6-12**]  03:47 AM
                             [**2141-6-12**]  03:59 AM
   WBC
   28.8
   34.9
   27.3
   26.8
   Hct
   27.9
   31.1
   32.9
   30.2
   30.7
   Plt
   258
   289
   222
   201
   Cr
   1.0
   1.1
   1.0
   0.9
   TCO2
   21
   22
   24
   24
   23
   Glucose
   137
   102
   94
   78
   Other labs: PT / PTT / INR:12.4/28.5/1.0, CK / CKMB /
   Troponin-T:26/2/<0.01, Differential-Neuts:89.0 %, Band:7.0 %, Lymph:1.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:508 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock in the
   setting of recurrent C. diff colitis
   #C. diff septic shock
 definitive tx [**2141-6-10**] with colectomy.  Pt
   required several liters IVF peri and post-op to maintain BP and UOP.
   - BP currently stable without the use of pressors;
    -higher preload requirement [**1-7**] hyperdynamic LV/dystolic dysfunction
   - Cont. IV vanco, IV flagyl, and cipro
   -repeat c. diff toxin positive
   -cont. contact precautions
   #Hypokalemia: stable; continue sliding scale K+ per surgery recs
   # tachycardia:  HR 110-130;
   current sedation/pain management with versed and fentanyl;  Increase
   range of fentanyl
   If not responsive to increased fentanyl start lopressor IV 2.5 mg QID
   prn tachycardia
   #Coagulopathy - on outpatient coumadin, was supratherapeutic on
   admission, INR 6.0 pre-op, given 2mg IV vit K and 3 U FFP; EBL during
   surgery 1 liter.
   [**2141-6-11**] INR 1.2
   [**2141-6-11**] Hct  32.9.
   #AFib w/ RVR
   -Consider amio load if HD stable and tachycardia persists post-op\
   - Hold coumadin and hep gtt @ this time
   #Respiratory distress:  pt switched from AC ventilation to PS this
   morning.  Pt did well but in the face of recent  large volume
   rescusitation will not be extubated today so was placed back on AC
   ventilation (VT: 4-6cc/kg; PEEP 10)
    #ARF: Creatinine 1.1 post large fluid resuscitation.
   Current UOP ranging from 20-30cc/hr despite large volume
   resuscitation.
   Attempt to maintain UOP > 20cc/hr per surgery recs.
   Measure Bladder pressure to help determine extent of third spacing in
   the abdomen.
   Try to refrain from large IVF boluses unless necessary to maintain BP.
   Discuss with holding maintenance IVF with surgery team
   Order UA
   Order Urine electrolytes
   .
   #. HTN:  controlled
   #. F/E/N:
   - Discuss initiating TPN  with surgery team
   - NGT to suction
   .
   #PPx - venodynes, PPI
   #Access
 currently has R IJ and 2 PIVs, R radial A-line
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**]
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Arterial Line - [**2141-6-9**] 09:40 PM
   20 Gauge - [**2141-6-10**] 06:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2141-06-13 06:43:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis s/p colectomy [**2141-6-10**]
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-6-12**] 10:00 PM
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-11**] 08:00 AM
   Ciprofloxacin - [**2141-6-12**] 10:00 PM
   Metronidazole - [**2141-6-13**] 03:39 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Fentanyl - [**2141-6-13**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-13**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 99 (85 - 129) bpm
   BP: 96/54(62) {88/42(55) - 151/72(102)} mmHg
   RR: 21 (7 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.5 kg (admission): 95 kg
   Height: 68 Inch
    CVP: 17 (13 - 21)mmHg
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  4,145 mL
                                                                    914 mL
   PO:
   TF:
   IVF:
                                                                  4,095 mL
                                                                    914 mL
   Blood products:
   Total out:
                                                                  1,322 mL
                                                                    550 mL
   Urine:
                                                                  1,137 mL
                                                                    550 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,823 mL
                                                                    364 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 611 (492 - 640) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 20 cmH2O
   Compliance: 48.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/44/91/23/-3
   Ve: 13.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   11.1 g/dL
   70 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   14 mg/dL
   108 mEq/L
   136 mEq/L
   34.3 %
   28.2 K/uL
        [image002.jpg]
                             [**2141-6-11**]  04:48 AM
                             [**2141-6-11**]  05:03 AM
                             [**2141-6-11**]  04:15 PM
                             [**2141-6-11**]  05:03 PM
                             [**2141-6-12**]  03:47 AM
                             [**2141-6-12**]  03:59 AM
                             [**2141-6-12**]  05:03 PM
                             [**2141-6-12**]  08:18 PM
                             [**2141-6-12**]  10:32 PM
                             [**2141-6-13**]  05:52 AM
   WBC
   34.9
   27.3
   26.8
   28.2
   Hct
   32.9
   30.2
   30.7
   34.3
   Plt
   [**Telephone/Fax (3) 3521**]21
   Cr
   1.1
   1.0
   0.9
   0.8
   0.8
   TCO2
   24
   24
   23
   24
   24
   Glucose
   102
   94
   78
   78
   70
   Other labs: PT / PTT / INR:12.4/28.5/1.0, CK / CKMB /
   Troponin-T:26/2/<0.01, Differential-Neuts:89.0 %, Band:7.0 %, Lymph:1.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:508 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff colitis, POD#2 s/p
   colectomy, ileostomy, intubated and sedated.
   .
   #Ischemic colitis/C. diff
 Clinically no longer in shock, HD stable
   off pressors > 24 hrs.
   -cont. IV flagyl, IV cipro for cov
g of bacterial translocation, c.
   diff
   -contact precautions
   .
    #Volume overload
 Has required massive volume repletion, +8L x 24
   hrs, ~+30 L to date. Remains on CMV. Continues to third-space fluid
   post-operatively. CXR shows mild pulm edema. Should remain on vent
   until begins to auto-diurese.
   -Would attempt to limit further volume repletion, but may require PRN
   boluses to keep UOP > 40-50 cc/hr
   -Wean versed, PSV trial ([**4-15**]/PEEP 10)
   .
   #AFib
 HR 90-120s
   -lopressor 12.5 mg PO/NG [**Hospital1 **] for rate control since has BP room
   -avoid cardioversion as holding anticoagulation peri-operatively
   .
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   .
   #F/E/N:
   -Paralytic ileus, no bowel sounds
 should remain NPO, will refrain
   from starting TF at this time
   -RISS
   .
   #PPx - venodynes, SQH, PPI
   .
   #Access
 currently has R IJ and 2 PIVs, R radial A-line
   .
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**]
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   20 Gauge - [**2141-6-10**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-06-14 06:45:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis
   24 Hour Events:
   Lasix gtt of @ 0000 for BP 87/45. 250 NS bolus x 1 given. BP rechecked
   at 97/58.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-11**] 08:00 AM
   Ciprofloxacin - [**2141-6-13**] 10:00 PM
   Metronidazole - [**2141-6-14**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Metoprolol - [**2141-6-13**] 12:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient intubated, sedated
   Flowsheet Data as of  [**2141-6-14**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 110 (84 - 117) bpm
   BP: 113/50(64) {80/40(51) - 135/80(85)} mmHg
   RR: 17 (0 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.5 kg (admission): 95 kg
   Height: 68 Inch
    CVP: 18 (15 - 18)mmHg
   Total In:
                                                                  2,468 mL
                                                                    820 mL
   PO:
   TF:
   IVF:
                                                                  2,218 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                    780 mL
   Urine:
                                                                  3,275 mL
                                                                    600 mL
   NG:
                                                                     70 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -897 mL
                                                                     40 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 555 (415 - 640) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 41
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 6.9 L/min
   Physical Examination
   Gen: intubated, sedated, NAD
   CV: irreg irreg, distant heart sounds
   Lungs: decreased bibasilar BS L>R, no wheeze
   Abd: soft, distended, absent BS, + ostomy output, incision site clean,
   dry, nonerythematous
   Ext: warm, dry, 2+ pedal edema
   Labs / Radiology
   228 K/uL
   10.6 g/dL
   122 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   13 mg/dL
   107 mEq/L
   136 mEq/L
   31.9 %
   23.2 K/uL
        [image002.jpg]
                             [**2141-6-11**]  04:15 PM
                             [**2141-6-11**]  05:03 PM
                             [**2141-6-12**]  03:47 AM
                             [**2141-6-12**]  03:59 AM
                             [**2141-6-12**]  05:03 PM
                             [**2141-6-12**]  08:18 PM
                             [**2141-6-12**]  10:32 PM
                             [**2141-6-13**]  05:52 AM
                             [**2141-6-13**]  04:19 PM
                             [**2141-6-14**]  04:18 AM
   WBC
   27.3
   26.8
   28.2
   23.2
   Hct
   30.2
   30.7
   34.3
   31.9
   Plt
   222
   201
   221
   228
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   24
   23
   24
   24
   Glucose
   94
   78
   78
   70
   74
   122
   Other labs: PT / PTT / INR:12.4/28.5/1.0, CK / CKMB /
   Troponin-T:26/2/<0.01, Differential-Neuts:80.0 %, Band:3.0 %, Lymph:4.0
   %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:508 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   intubated and sedated, massively volume overloaded.
   .
   #C. diff sepsis
 Clinically no longer in shock, off pressors, afebrile
   but with persistent leukocytosis, perhaps [**1-7**] to rectal disease
   -IV flagyl for c. diff cov
g; add PR vanco to treat rectal mucosa
   -IV cipro for cov
g of gram negatives in the setting of gut
   translocation
   -contact precautions
   .
   #Volume overoad - +28L LOS; third-spacing fluid but beginning to
   autodiurese
   -cont. PSV 10/10, needs aggressive diurese prior to weaning
   -lasix gtt as BP tolerates
   -goal -2 L x 24 hrs
   -consider CVVH if lasix gtt diuresis limited by hypotension
   .
   #Hypotension
 likely intravascularly depleted [**1-7**] systemic
   inflammation
   -down-titrate lasix gtt if SBP <90
   -would avoid restarting pressors
   -attempt to limit versed gtt if possible while keeping comfortable
   -[**Last Name (un) 45**] stim test, although low likelihood of suspicion for adrenal
   insufficiency
   .
   #AFib
 HR 80-110s
   -lopressor 2.5 IV BID  for rate control; would avoid longer-acting
   nodal [**Doctor Last Name **] while c/f hypotension
   -avoid cardioversion as holding anticoagulation peri-operatively
   .
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   .
   #F/E/N:
   - TPN
   - goal -2 L x 24 hrs
   -RISS
   .
   #PPx - venodynes, SQH, PPI
   .
   #Access
 currently has R IJ triple lumen; needs 4-lumen cath if
   additional IV meds required; re-attempt A-line today; will need
   additional access if RRT warranted
   .
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**]
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   TPN without Lipids - [**2141-6-13**] 06:00 PM 41.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:  RISS
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT:  SQH, venodynes
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2141-06-15 06:55:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis
   24 Hour Events:
   TTE [**6-14**] - The left atrium is elongated. Left ventricular wall
   thickness, cavity size, and global systolic function are normal
   (LVEF>55%). Due to suboptimal technical quality, a focal wall motion
   abnormality cannot be fully excluded. The estimated cardiac index is
   borderline low (2.0-2.5L/min/m2). Right ventricular chamber size and
   free wall motion are normal. The aortic valve leaflets are moderately
   thickened. Cannot exclude mild aortic stenosis, but this does not
   appear to be severe. No aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. No mitral regurgitation is seen. The
   pulmonary artery systolic pressure could not be determined. There is an
   anterior space which most likely represents a fat pad.
   Compared with the prior study (images reviewed) of [**2141-5-15**], the
   findings are similar.
   L radial A-line placed
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-14**] 09:50 PM
   Metronidazole - [**2141-6-15**] 04:00 AM
   Vancomycin - [**2141-6-15**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2141-6-14**] 03:43 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-15**] 12:26 AM
   Midazolam (Versed) - [**2141-6-15**] 03:55 AM
   Fentanyl - [**2141-6-15**] 03:55 AM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**12-7**] MinimalPain location: midline abd
   Flowsheet Data as of  [**2141-6-15**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 104 (87 - 131) bpm
   BP: 147/65(93) {102/45(62) - 147/68(93)} mmHg
   RR: 13 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.5 kg (admission): 95 kg
   Height: 68 Inch
    CVP: 15 (9 - 17)mmHg
   Total In:
                                                                  2,910 mL
                                                                    813 mL
   PO:
   TF:
   IVF:
                                                                  1,726 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  4,635 mL
                                                                  2,500 mL
   Urine:
                                                                  4,335 mL
                                                                  2,400 mL
   NG:
                                                                    180 mL
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,725 mL
                                                                 -1,687 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 449 (449 - 570) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   SpO2: 100%
   ABG: 7.34/41/128/27/-3
   Ve: 8 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L>R, Diminished: bibasilar)
   Abdominal: Soft, Bowel sounds diminished, Distended, Tender:
   appropriately tender surrounding incision
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Non -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   242 K/uL
   10.2 g/dL
   127 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.4 mEq/L
   16 mg/dL
   105 mEq/L
   137 mEq/L
   31.0 %
   20.9 K/uL
        [image002.jpg]
                             [**2141-6-12**]  03:47 AM
                             [**2141-6-12**]  03:59 AM
                             [**2141-6-12**]  05:03 PM
                             [**2141-6-12**]  08:18 PM
                             [**2141-6-12**]  10:32 PM
                             [**2141-6-13**]  05:52 AM
                             [**2141-6-13**]  04:19 PM
                             [**2141-6-14**]  04:18 AM
                             [**2141-6-15**]  03:09 AM
                             [**2141-6-15**]  03:36 AM
   WBC
   26.8
   28.2
   23.2
   20.9
   Hct
   30.7
   34.3
   31.9
   31.0
   Plt
   [**Telephone/Fax (3) 3547**]42
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.6
   TCO2
   23
   24
   24
   23
   Glucose
   78
   78
   70
   74
   122
   127
   Other labs: PT / PTT / INR:12.4/28.5/1.0, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:[**9-19**], Alk Phos / T Bili:89/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:73.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:10.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Microbiology: [**6-8**] urine Cx
 negative
   [**6-10**] C. diff toxin +
   [**6-14**] blood Cx - NGTD
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   intubated and sedated, massively volume overloaded.
   .
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, persistent leukocytosis, perhaps [**1-7**] to rectal disease, is
   gradually improving
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -IV cipro for cov
g of gram negatives in the setting of gut
   translocation
   -contact precautions
   .
   #Volume overoad - ~+25L LOS; third-spacing fluid but beginning to
   autodiurese and responding well to lasix gtt
   -cont. PSV 10/10, cont. aggressive diurese prior to weaning
   -lasix gtt as BP tolerates; down-titrating versed gtt allows more BP
   room
   -goal -2-2.5 L x 24 hrs
   .
   #Hypotension
 likely intravascularly depleted [**1-7**] systemic
   inflammation
   -down-titrate lasix gtt if SBP <90
   -would avoid restarting pressors
   -attempt to limit versed gtt if possible while keeping comfortable
   -[**Last Name (un) 45**] stim test not suggestive of adrenal insufficiency
   .
   #AFib
 HR 80-120s
   -lopressor 2.5 IV q6  for rate control; would avoid longer-acting nodal
   [**Doctor Last Name **] while c/f hypotension
   -avoid cardioversion as holding anticoagulation peri-operatively
   -start low-dose ASA in light of h/o CAD
   .
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   .
   #F/E/N:
   - TPN; consider starting TF as appears to be moving her bowels
   - goal -2-2.5 L x 24 hrs
   -RISS
   .
   #PPx - venodynes, SQH, PPI
   .
   #Access
 currently has R IJ triple lumen; needs 4-lumen cath if
   additional IV meds required; L radial A-line
   .
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**]
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2141-6-14**] 05:56 PM 71.[**Telephone/Fax (5) 3548**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Arterial Line - [**2141-6-14**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2141-06-16 06:54:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis s/p colectomy
   24 Hour Events:
   WBC increase to 26.8.  Low grade fevers overnight (99.7).
   UOP yesterday 6L; lasix drip was stopped.
   Per Surgery recs: patient was restarted on [**Last Name (LF) **], [**First Name3 (LF) 178**] wait on tube feeds
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-15**] 10:14 PM
   Vancomycin - [**2141-6-16**] 12:00 AM
   Metronidazole - [**2141-6-16**] 04:15 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-15**] 11:59 PM
   Metoprolol - [**2141-6-16**] 12:01 AM
   Midazolam (Versed) - [**2141-6-16**] 05:50 AM
   Fentanyl - [**2141-6-16**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-16**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 107 (89 - 113) bpm
   BP: 152/71(99) {100/44(61) - 177/110(114)} mmHg
   RR: 12 (0 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 125 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  3,353 mL
                                                                    872 mL
   PO:
             TF:
   IVF:
                                                                  1,664 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  6,365 mL
                                                                    666 mL
   Urine:
                                                                  6,235 mL
                                                                    515 mL
   NG:
                                                                     60 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,012 mL
                                                                    206 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (360 - 430) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 152
   SpO2: 98%
   ABG: ///27/
   Ve: 8.2 L/min
   Physical Examination
   Gen: NAD, opens eyes to name, answers yes/no questions
   CV: distant heart sounds, irregularly irregular, no M/R/G appreciated
   Lungs: on ventilator
   Abd: soft, edematous, nontender, incision c/d/i, ostomy + output.
   Ext: warm, dry, 1+ distal pulses, slight improvement in edema
   Labs / Radiology
   [**2141-6-14**] blood cx: pending
   [**2141-6-8**] Urine cx: no growth
   [**2141-6-10**] C. diff toxin: positive
   291 K/uL
   10.6 g/dL
   132 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.5 mEq/L
   22 mg/dL
   106 mEq/L
   136 mEq/L
   33.3 %
   26.8 K/uL
        [image002.jpg]
                             [**2141-6-12**]  05:03 PM
                             [**2141-6-12**]  08:18 PM
                             [**2141-6-12**]  10:32 PM
                             [**2141-6-13**]  05:52 AM
                             [**2141-6-13**]  04:19 PM
                             [**2141-6-14**]  04:18 AM
                             [**2141-6-15**]  03:09 AM
                             [**2141-6-15**]  03:36 AM
                             [**2141-6-15**]  10:01 PM
                             [**2141-6-16**]  04:10 AM
   WBC
   28.2
   23.2
   20.9
   26.8
   Hct
   34.3
   31.9
   31.0
   33.3
   Plt
   221
   228
   242
   291
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   0.6
   0.6
   TCO2
   24
   24
   23
   Glucose
   78
   70
   74
   122
   127
   141
   132
   Other labs: PT / PTT / INR:13.5/29.9/1.2, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:[**9-19**], Alk Phos / T Bili:89/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:73.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:10.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   intubated and sedated, massively volume overloaded.
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, persistent leukocytosis, perhaps [**1-7**] to rectal disease
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -IV cipro for cov
g of gram negatives in the setting of gut
   translocation
   -contact precautions
   .# Leukocytosis
increase 20
 26.8; currently thought to be [**1-7**] rectal
   disease
   -          reculture blood and urine
   -          continue to monitor
   -          hold on any changes to antibiotics at this time
   #Volume overoad - ~+25L LOS; third-spacing fluid but beginning to
   autodiurese and responding well to lasix gtt
   -cont. PSV 10/10, cont. aggressive diurese prior to weaning
   -lasix gtt as BP tolerates; down-titrating versed gtt allows more BP
   room
   -goal -2-2.5 L x 24 hrs
   .
   #Hypotension
 likely intravascularly depleted [**1-7**] systemic
   inflammation
   -down-titrate lasix gtt if SBP <90
   -would avoid restarting pressors
   -attempt to limit versed gtt if possible while keeping comfortable
   -[**Last Name (un) 45**] stim test not suggestive of adrenal insufficiency
   .
   #AFib
 HR 80-120s
   -change lopressor 2.5 IV q6 to 12.5 po BID (titrate up) for rate
   control; would avoid longer-acting nodal [**Doctor Last Name **] while c/f hypotension
   -avoid cardioversion as holding anticoagulation peri-operatively
   -start low-dose [**Doctor Last Name 369**] in light of h/o CAD
   .
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   .
   #F/E/N:
   - TPN; consider starting TF tomorrow if increased gas production
   - goal -2-2.5 L x 24 hrs
   -RISS
   #PPx - venodynes, SQH, PPI
   .
   #Access
 currently has R IJ triple lumen; needs 4-lumen cath if
   additional IV meds required; L radial A-line
   .
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**]
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2141-6-15**] 06:00 PM 70.[**Telephone/Fax (5) 3548**] mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Arterial Line - [**2141-6-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-17 07:15:00 Physician Resident Progress Note
Chief Complaint: volume overload
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   intubated and sedated, massively volume overloaded.
   24 Hour Events:
   Obtained blood and urine cx for leukocytosis without fevers.
   No events overnight.
   The patient
s arterial line malfunctioning.
   Central line requires resuturing.
   Surgery came by and recommended starting TF at 10cc/hr and keeping at
   that rate for 24 hrs.  Re-eval in am.  Continue TPN.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-16**] 10:03 PM
   Metronidazole - [**2141-6-17**] 04:00 AM
   Vancomycin - [**2141-6-17**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 125 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-16**] 11:54 PM
   Fentanyl - [**2141-6-17**] 06:10 AM
   Midazolam (Versed) - [**2141-6-17**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 109 (86 - 115) bpm
   BP:  130/70
 recorded values are from art-line and are incorrect.
   RR: 15 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 126 kg (admission): 95 kg
   Height: 68 Inch
    CVP: 206 (206 - 358)mmHg
   Total In:
                                                                  3,236 mL
                                                                    934 mL
   PO:
   TF:
   IVF:
                                                                  1,537 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  5,626 mL
                                                                  1,900 mL
   Urine:
                                                                  5,475 mL
                                                                  1,750 mL
   NG:
                                                                    150 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,390 mL
                                                                   -966 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 585 (324 - 643) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.37/45/138/29/2
   Ve: 11 L/min
   PaO2 / FiO2: 345
   Physical Examination
   Gen: intubated and sedated, large body habitus.
   Lungs: ventilated breath sounds
   CV: rapid rate, regular rhythm, s1 & s2 nl, no m/r/g
   ABD: +BS, incision with staples intact some erythema surrounding
   staples.  One area of quarter size erythema around staples.
   Ostomy with gas in bag
   EXT: warm, dry, +++edematous, elbows & heels with some reddness (skin
   precautions being used)
   Labs / Radiology
   328 K/uL
   10.3 g/dL
   122 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   23 mg/dL
   102 mEq/L
   136 mEq/L
   30.9 %
   24.2 K/uL
        [image002.jpg]
                             [**2141-6-13**]  05:52 AM
                             [**2141-6-13**]  04:19 PM
                             [**2141-6-14**]  04:18 AM
                             [**2141-6-15**]  03:09 AM
                             [**2141-6-15**]  03:36 AM
                             [**2141-6-15**]  10:01 PM
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
   WBC
   28.2
   23.2
   20.9
   26.8
   24.2
   Hct
   34.3
   31.9
   31.0
   33.3
   30.9
   Plt
   221
   228
   242
   291
   328
   Cr
   0.8
   0.8
   0.7
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   23
   29
   Glucose
   70
   74
   122
   127
   141
   132
   132
   122
   Other labs: PT / PTT / INR:13.5/29.9/1.2,
   CK / CKMB / Troponin-T:26/2/<0.01,
    ALT / AST:[**9-19**], Alk Phos / T Bili:89/0.2, Amylase / Lipase:17/31,
   Differential-Neuts:84.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:1.0
   %,
   Fibrinogen:508 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200
   IU/L,
    Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   freeCa:1.12
   pH:7.37
   Imaging: CXR [**2141-6-17**] - similar to previous.
   left lung appears clearer than right but likely due to roation.
   Microbiology: 2 neg blood cxs,
   4 blood cxs pending.
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   intubated and sedated, massively volume overloaded.
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, persistent leukocytosis, perhaps [**1-7**] to rectal disease
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -IV cipro for cov
g of gram negatives in the setting of gut
   translocation
   -contact precautions
   .# Leukocytosis
WBC decreased from 26 to 24 today; currently thought to
   be [**1-7**] rectal disease.  Possibly due to developing cellulitis around
   wound.  Examed area again with surgery and they recommend closely
   following it for now.
   -          reculture blood and urine
   -          continue to monitor wound exam
   -          hold on any changes to antibiotics at this time
   #Volume overoad - ~+19L LOS; third-spacing fluid but beginning to
   autodiurese and responding well to lasix gtt
   -cont. PSV 10/10, cont. aggressive diurese prior to weaning
   -lasix gtt as BP tolerates; down-titrating versed gtt allows more BP
   room
   -goal -2-2.5 L x 24 hrs
   #Hypotension
 likely intravascularly depleted [**1-7**] systemic
   inflammation
   -down-titrate lasix gtt if SBP <90
   -would avoid restarting pressors
   -attempt to limit versed gtt if possible while keeping comfortable
   -[**Last Name (un) 45**] stim test not suggestive of adrenal insufficiency
   #AFib
 HR 80-120s
   -change lopressor 2.5 IV q6 to 12.5 po BID (titrate up) for rate
   control; would avoid longer-acting nodal [**Doctor Last Name **] while c/f hypotension
   -avoid cardioversion as holding anticoagulation peri-operatively
   -start low-dose ASA in light of h/o CAD
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   #F/E/N:
   - TPN; start TF at 10 cc/hr today and re-eval tomorrow.
   - goal -2-2.5 L x 24 hrs
   -RISS
   #PPx - venodynes, SQH, PPI
   #Access
 currently has R IJ triple lumen; needs 4-lumen cath if
   additional IV meds required; L radial A-line
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].  Updated [**Doctor First Name **] on
   patient
s status yesterday.
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2141-6-16**] 05:00 PM 70.[**Telephone/Fax (5) 3548**] mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Arterial Line - [**2141-6-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-18 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-6-17**] 05:45 PM
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2141-6-17**] 07:48 PM
   Ciprofloxacin - [**2141-6-17**] 10:00 PM
   Vancomycin - [**2141-6-18**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Metoprolol - [**2141-6-17**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-18**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 102 (94 - 124) bpm
   BP: 120/59(74) {86/30(44) - 147/74(89)} mmHg
   RR: 17 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 126 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  3,616 mL
                                                                    865 mL
   PO:
             TF:
                                                                    125 mL
                                                                     74 mL
   IVF:
                                                                  1,625 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  6,080 mL
                                                                  1,240 mL
   Urine:
                                                                  5,810 mL
                                                                  1,240 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,464 mL
                                                                   -375 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 434 (403 - 448) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   337 K/uL
   9.6 g/dL
   138 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.5 mEq/L
   25 mg/dL
   97 mEq/L
   135 mEq/L
   29.4 %
   18.7 K/uL
        [image002.jpg]
                             [**2141-6-14**]  04:18 AM
                             [**2141-6-15**]  03:09 AM
                             [**2141-6-15**]  03:36 AM
                             [**2141-6-15**]  10:01 PM
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
   WBC
   23.2
   20.9
   26.8
   24.2
   18.7
   Hct
   31.9
   31.0
   33.3
   30.9
   29.4
   Plt
   [**Telephone/Fax (3) 3584**]28
   337
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   23
   29
   Glucose
   122
   127
   141
   132
   132
   122
   138
   Other labs: PT / PTT / INR:13.5/29.9/1.2, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:[**9-19**], Alk Phos / T Bili:89/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   intubated and sedated, massively volume overloaded.
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, persistent leukocytosis, perhaps [**1-7**] to rectal disease
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -IV cipro for cov
g of gram negatives in the setting of gut
   translocation
   -contact precautions
   .# Leukocytosis
WBC decreased from 26 to 24 today; currently thought to
   be [**1-7**] rectal disease.  Possibly due to developing cellulitis around
   wound.  Examed area again with surgery and they recommend closely
   following it for now.
   -          reculture blood and urine
   -          continue to monitor wound exam
   -          hold on any changes to antibiotics at this time
   #Volume overoad - ~+19L LOS; third-spacing fluid but beginning to
   autodiurese and responding well to lasix gtt
   -cont. PSV 10/10, cont. aggressive diurese prior to weaning
   -lasix gtt as BP tolerates; down-titrating versed gtt allows more BP
   room
   -goal -2-2.5 L x 24 hrs
   #Hypotension
 likely intravascularly depleted [**1-7**] systemic
   inflammation
   -down-titrate lasix gtt if SBP <90
   -would avoid restarting pressors
   -attempt to limit versed gtt if possible while keeping comfortable
   -[**Last Name (un) 45**] stim test not suggestive of adrenal insufficiency
   #AFib
 HR 80-120s
   -change lopressor 2.5 IV q6 to 12.5 po BID (titrate up) for rate
   control; would avoid longer-acting nodal [**Doctor Last Name **] while c/f hypotension
   -avoid cardioversion as holding anticoagulation peri-operatively
   -start low-dose ASA in light of h/o CAD
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   #F/E/N:
   - TPN; start TF at 10 cc/hr today and re-eval tomorrow.
   - goal -2-2.5 L x 24 hrs
   -RISS
   #PPx - venodynes, SQH, PPI
   #Access
 currently has R IJ triple lumen; needs 4-lumen cath if
   additional IV meds required; L radial A-line
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].  Updated [**Doctor First Name **] on
   patient
s status yesterday.
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-6-17**] 11:30 AM 10 mL/hour
   TPN w/ Lipids - [**2141-6-17**] 04:53 PM 70.[**Telephone/Fax (5) 3548**] mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-19 06:37:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis s/p colectomy
   Respiratory failure secondary to volume overload
   24 Hour Events:
   No events overnight
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-18**] 09:59 PM
   Metronidazole - [**2141-6-19**] 04:00 AM
   Vancomycin - [**2141-6-19**] 04:25 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Metoprolol - [**2141-6-18**] 12:00 PM
   Fentanyl - [**2141-6-18**] 04:40 PM
   Midazolam (Versed) - [**2141-6-18**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-18**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-19**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 115 (90 - 115) bpm
   BP: 96/32(92) {84/32(48) - 139/76(92)} mmHg
   RR: 30 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 126 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  3,744 mL
                                                                  1,045 mL
   PO:
             TF:
                                                                    426 mL
                                                                    232 mL
   IVF:
                                                                  1,468 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                  1,095 mL
   Urine:
                                                                  3,565 mL
                                                                  1,095 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    154 mL
                                                                    -50 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 509 (442 - 509) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 12.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   336 K/uL
   9.0 g/dL
   119 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   26.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2141-6-15**]  03:09 AM
                             [**2141-6-15**]  03:36 AM
                             [**2141-6-15**]  10:01 PM
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
   WBC
   20.9
   26.8
   24.2
   18.7
   15.3
   Hct
   31.0
   33.3
   30.9
   29.4
   26.7
   Plt
   [**Telephone/Fax (3) 3592**]37
   336
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   TCO2
   23
   29
   Glucose
   127
   141
   132
   132
   122
   138
   119
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:[**9-19**], Alk Phos / T Bili:89/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
   likely from C. diff
 DIARRHEA
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   on admission; improving with IVF
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
 HYPERTENSION, BENIGN
   chronic; holding meds while with sepsis
 HYPOTHYROIDISM
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   intubated and sedated, massively volume overloaded.
   .
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, resolving leukocytosis.
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -IV cipro for cov
g of gram negatives in the setting of gut
   translocation
   -contact precautions
    .
   #Volume overoad - ~+18L LOS; responding well to lasix gtt
   -cont. PSV 10/10, cont. aggressive diurese prior to weaning
   -lasix gtt as BP tolerates; down-titrating versed gtt allows more BP
   room if comfort level tolerates
   -goal -2-2.5 L x 24 hrs
   .
   #AFib
 HR 80-120s
   -lopressor 12.5 po BID (titrate up) for rate control; would avoid
   longer-acting nodal [**Doctor Last Name **] if c/f hypotension
   -low-dose ASA for h/o CAD
   .
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   .
   #F/E/N:
   - advance TF
s; d/c TPN when at goal w/o residuals
   - goal -2-2.5 L x 24 hrs; monitor
lytes [**Hospital1 **] and replete PRN while
   diuresing
   -RISS
   .
   #PPx - venodynes, SQH, PPI
    .
   #Access
 currently has R IJ triple lumen; needs 4-lumen cath if
   additional IV meds required; L radial A-line
   .
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].  Updated [**Doctor First Name **] on
   patient
s status yesterday.
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2141-6-18**] 04:53 PM 70.[**Telephone/Fax (5) 3548**] mL/hour
   Nutren 2.0 (Full) - [**2141-6-19**] 01:19 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-19 12:10:00 Physician Attending Progress Note
Chief Complaint: respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Fever to 101 last pm
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2141-6-19**] 04:00 AM
   Ciprofloxacin - [**2141-6-19**] 10:00 AM
   Vancomycin - [**2141-6-19**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 125 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2141-6-18**] 12:00 PM
   Fentanyl - [**2141-6-18**] 04:40 PM
   Midazolam (Versed) - [**2141-6-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-6-19**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-19**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 102 (89 - 115) bpm
   BP: 123/59(76) {84/31(45) - 139/76(92)} mmHg
   RR: 25 (18 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  3,744 mL
                                                                  2,726 mL
   PO:
             TF:
                                                                    426 mL
                                                                  1,119 mL
   IVF:
                                                                  1,468 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                  1,935 mL
   Urine:
                                                                  3,565 mL
                                                                  1,935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    154 mL
                                                                    793 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 509 (442 - 509) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   336 K/uL
   119 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   26.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2141-6-15**]  03:09 AM
                             [**2141-6-15**]  03:36 AM
                             [**2141-6-15**]  10:01 PM
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
   WBC
   20.9
   26.8
   24.2
   18.7
   15.3
   Hct
   31.0
   33.3
   30.9
   29.4
   26.7
   Plt
   [**Telephone/Fax (3) 3592**]37
   336
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   TCO2
   23
   29
   Glucose
   127
   141
   132
   132
   122
   138
   119
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:[**9-19**], Alk Phos / T Bili:89/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR--Some improvement in edema findings.  Left CPA not seen on
   the film--will need to be repeated if concern for PTX is significant.
   Assessment and Plan
   85 yo female admit wtih C. Diff Colitis requiring colectomy and CCY now
   with significant volume overload and ongoing managment of respiratory
   failure in setting of volume overload.  She has had colectomy and has
   ileostomy and rectal pouch remaining.
   Respiratory Failure--reversible source is the volume overload.  Mental
   status/agitation is at issue and will have minimal sedating medications
   as possible.
   -Diuresis 2 liters per day.
   -Will need to move to wean of PEEP if tolerated by oxygenation
   -She has had ETT in place for 11 days and will need to move toward
   extubation as soon as is reasoanble.
   -Haldol to add
will use versed as bolus only
   -Will move to PSV wean in AM or this PM depending on response
 SHOCK, SEPTIC
   likely from C. diff
   -Vanco PR
   -Cipro
   -Flagyl to continue
   -This has largely resolved
 DIARRHEA
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   on admission; improving with IVF
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
   Patient with current
 HYPERTENSION, BENIGN
   chronic; holding meds while with sepsis
 HYPOTHYROIDISM
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2141-6-18**] 04:53 PM 70.[**Telephone/Fax (5) 3548**] mL/hour
   Nutren 2.0 (Full) - [**2141-6-19**] 09:52 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-06-20 07:08:00 Physician Resident Progress Note
Chief Complaint: C diff colitis s/p colectomy.
   85 y/o female h/o AFib on coumadin and HTN a/w septic [** 1054**], ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   intubated and sedated, massively volume overloaded.
   24 Hour Events:
   Poor diuresis with less that 1 liter neg over 24 hours.
   Possible PSV trlal today.
   Surgery red: D/C TPN after TF to goal.  Goal of [**3-11**] L neg if BP can
   tolerate.
   SUBJECTIVE:
   Patient denies pain, fevers, chills.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-19**] 10:12 PM
   Vancomycin - [**2141-6-20**] 04:12 AM
   Metronidazole - [**2141-6-20**] 04:13 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 125 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-6-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-6-20**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-20**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 112 (88 - 116) bpm
   BP: 116/60(68) {81/31(43) - 131/95(96)} mmHg
   RR: 32 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  4,437 mL
                                                                    697 mL
   PO:
             TF:
                                                                  1,545 mL
                                                                    245 mL
   IVF:
                                                                  1,466 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  5,280 mL
                                                                  2,210 mL
   Urine:
                                                                  5,195 mL
                                                                  2,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -843 mL
                                                                 -1,513 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 9.8 L/min
   Physical Examination
   Gen: sedated and appears comfortable on the vent
   Neck: RIJ without erythema
   Lungs: ventilated breath sounds
   CV:  RRR, S1 & S2 nl, no m/r/g, 2+ radial pulses
   Abd: +bs, incision with staples intact, minimal erythema surrounding
   staples no expansion from previous. Appropriately tender to palpation.
   Ostomy appears patent with gas/stool in bag
   Ext: warm dry, +edema
   Labs / Radiology
   373 K/uL
   9.8 g/dL
   107 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   27 mg/dL
   95 mEq/L
   136 mEq/L
   29.6 %
   15.1 K/uL
        [image002.jpg]
                             [**2141-6-15**]  03:36 AM
                             [**2141-6-15**]  10:01 PM
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
   WBC
   26.8
   24.2
   18.7
   15.3
   15.1
   Hct
   33.3
   30.9
   29.4
   26.7
   29.6
   Plt
   291
   328
   337
   336
   373
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   TCO2
   23
   29
   Glucose
   141
   132
   132
   122
   138
   119
   107
   Other labs: PT / PTT / INR:14.8/49.1/1.3,
   CK / CKMB / Troponin-T:26/2/<0.01, ALT / AST:12/34,
    Alk Phos / T Bili:94/0.2, Amylase / Lipase:17/31,
   Differential-Neuts:84.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:1.0
   %,
    Fibrinogen:508 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:1.7 g/dL,
   LDH:200 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR [**2141-6-20**]
   Interval increase in haziness in the RLL.  LLL with deep sulcus on
   previous (PTX not noted on previous read). LLL not included in most
   recent CXR.
   Microbiology: Stool - + C Diff
   blood cx NGTD x4
    & neg x2
   urine neg
   Assessment and [**Last Name 440**]
   PROBLEM LIST:
 [**Name2 (NI) **], SEPTIC
   likely from C. diff
 DIARRHEA
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   on admission; improving with IVF
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
 HYPERTENSION, BENIGN
   chronic; holding meds while with sepsis
 HYPOTHYROIDISM
   ASSESSMENT & PLAN:
   85 y/o female h/o AFib on coumadin and HTN a/w septic [**Name2 (NI) 1054**], ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   POD #11 intubated and sedated, massively volume overloaded.
   #C. diff sepsis
 Clinically no longer in [**Name2 (NI) 1054**], off pressors,
   afebrile, resolving leukocytosis.
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -IV cipro for cov
g of gram negatives in the setting of gut
   translocation
 f-up with [**Doctor First Name **] re: length of Cipro course
   -contact precautions
   #Volume overoad - ~+16L LOS; responding well to lasix gtt
   -cont. Volume Control ventilation, cont. aggressive diuresis prior to
   weaning
   -lasix gtt as BP tolerates; down-titrating versed gtt allows more BP
   room if comfort level tolerates
   -goal -4-4.5 L x 24 hrs
   # Low grade fevers: no fevers overnight; day 11 on vent. no evidence at
   this time of VAP
   -etiology unknown
   -follow blood, urine, sputum cultures and WBC count
   -compare daily CXR
   -cx if spikes t>100.4
   #AFib
 HR 80-120s
   -lopressor 12.5 po BID (titrate up) for rate control; would avoid
   longer-acting nodal [**Doctor Last Name **] if c/f hypotension
   -low-dose ASA for h/o CAD
   -f-up with surgery re: restarting coumadin.
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   - d/c haldol
   #F/E/N:
   - TF
s at goal per nutrition rec (35cc/hr); d/c TPN today
   - monitor
lytes [**Hospital1 **] and replete PRN while diuresing
   -RISS
   #PPx - venodynes, SQH, PPI
   #Access
 currently has R IJ triple lumen; needs 4-lumen cath if
   additional IV meds required.
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].  Updated [**Doctor First Name **] on
   patient
s status yesterday.
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-6-20**] 02:55 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-20 11:27:00 Physician Attending Progress Note
Chief Complaint: post-op resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85F with severe c.diff colitis requiring colectomy:
   24 Hour Events:
   poor diuresis, <1L only,
   tube feeds now at goal
   afebrile to low grade
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-20**] 04:12 AM
   Metronidazole - [**2141-6-20**] 04:13 AM
   Ciprofloxacin - [**2141-6-20**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 125 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: Tachycardia
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Psychiatric / Sleep: Agitated, No(t) Suicidal, Delirious, No(t) Daytime
   somnolence
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2141-6-20**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 112 (88 - 116) bpm
   BP: 142/54(76) {81/32(43) - 142/95(96)} mmHg
   RR: 33 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  4,437 mL
                                                                  1,190 mL
   PO:
             TF:
                                                                  1,545 mL
                                                                    381 mL
   IVF:
                                                                  1,466 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  5,280 mL
                                                                  3,970 mL
   Urine:
                                                                  5,195 mL
                                                                  3,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -843 mL
                                                                 -2,780 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   Ve: 17.6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, pouch in place
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Non -purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   373 K/uL
   107 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   27 mg/dL
   95 mEq/L
   136 mEq/L
   29.6 %
   15.1 K/uL
        [image002.jpg]
                             [**2141-6-15**]  03:36 AM
                             [**2141-6-15**]  10:01 PM
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
   WBC
   26.8
   24.2
   18.7
   15.3
   15.1
   Hct
   33.3
   30.9
   29.4
   26.7
   29.6
   Plt
   291
   328
   337
   336
   373
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   TCO2
   23
   29
   Glucose
   141
   132
   132
   122
   138
   119
   107
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   85F with severe c.diff requiring colectomy, now POD 11, still fluid
   overloaded, now with recurrent fevers:
RESPIRATORY FAILURE:
   continue a/c for now but need to repeat RSBI
FEVER: low grade
 SHOCK, SEPTIC
   likely from C. diff; wbc continues to come down with current abx
 ATRIAL FIBRILLATION (AFIB)
   -pressure support trial today
   -continue aggressive diuresis with lasix dtt
   -reculture if spikes
   -clarify with surgery length of cipro treatment
   -not on coumadin; clarify with surgery when safe to restart a/c
   -may need to initiate trach discussion soon
   -full code
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-6-20**] 02:55 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments: will speak with patient's friend;
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2141-06-21 07:47:00 Physician Resident Progress Note
Chief Complaint: C. diff sepsis, volume overload
   24 Hour Events: PSV
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-20**] 04:12 AM
   Ciprofloxacin - [**2141-6-21**] 12:00 AM
   Metronidazole - [**2141-6-21**] 04:04 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-20**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-21**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 96 (84 - 135) bpm
   BP: 128/35(59) {88/35(47) - 156/85(80)} mmHg
   RR: 12 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  2,273 mL
                                                                    933 mL
   PO:
             TF:
                                                                    832 mL
                                                                    273 mL
   IVF:
                                                                  1,261 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  7,400 mL
                                                                  1,350 mL
   Urine:
                                                                  7,320 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,127 mL
                                                                   -417 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (0 - 600) mL
   Vt (Spontaneous): 448 (410 - 618) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 6.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   425 K/uL
   8.9 g/dL
   114 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.8 mEq/L
   27 mg/dL
   96 mEq/L
   137 mEq/L
   26.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
   WBC
   26.8
   24.2
   18.7
   15.3
   15.1
   12.4
   Hct
   33.3
   30.9
   29.4
   26.7
   29.6
   26.8
   Plt
   291
   328
   337
   [**Telephone/Fax (3) 3624**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   29
   Glucose
   132
   132
   122
   138
   119
   107
   99
   114
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib on coumadin and HTN a/w septic shock, ischemic
   colitis in the setting of recurrent C. diff, s/p colectomy & ileostomy,
   POD #11 intubated and sedated, massively volume overloaded.
   .
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, resolving leukocytosis.
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -IV cipro for cov
g of gram negatives in the setting of gut
   translocation
 f-up with [**Doctor First Name **] re: length of Cipro course
   -contact precautions
   #Volume overoad - ~+16L LOS; responding well to lasix gtt
   -cont. Volume Control ventilation, cont. aggressive diuresis prior to
   weaning
   -lasix gtt as BP tolerates; down-titrating versed gtt allows more BP
   room if comfort level tolerates
   -goal -4-4.5 L x 24 hrs
   # Low grade fevers: no fevers overnight; day 11 on vent. no evidence at
   this time of VAP
   -etiology unknown
   -follow blood, urine, sputum cultures and WBC count
   -compare daily CXR
   -cx if spikes t>100.4
   #AFib
 HR 80-120s
   -lopressor 12.5 po BID (titrate up) for rate control; would avoid
   longer-acting nodal [**Doctor Last Name **] if c/f hypotension
   -low-dose ASA for h/o CAD
   -f-up with surgery re: restarting coumadin.
   #Pain control/sedation
   -fentanyl gtt
   -versed gtt
   - d/c haldol
   #F/E/N:
   - TF
s at goal per nutrition rec (35cc/hr); d/c TPN today
   - monitor
lytes [**Hospital1 **] and replete PRN while diuresing
   -RISS
   #PPx - venodynes, SQH, PPI
   #Access
 currently has R IJ triple lumen; needs 4-lumen cath if
   additional IV meds required.
   #. CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].  Updated [**Doctor First Name **] on
   patient
s status yesterday.
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-6-21**] 04:50 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-21 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with diuresis effected over past 24 hours
   -PSV tolerated well overnight
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-20**] 04:12 AM
   Metronidazole - [**2141-6-21**] 04:04 AM
   Ciprofloxacin - [**2141-6-21**] 10:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-20**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2141-6-21**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 99 (84 - 135) bpm
   BP: 109/36(53) {88/30(45) - 156/85(80)} mmHg
   RR: 20 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  2,273 mL
                                                                  1,342 mL
   PO:
             TF:
                                                                    832 mL
                                                                    393 mL
   IVF:
                                                                  1,261 mL
                                                                    838 mL
   Blood products:
   Total out:
                                                                  7,400 mL
                                                                  2,010 mL
   Urine:
                                                                  7,320 mL
                                                                  1,960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,127 mL
                                                                   -668 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 490 (410 - 618) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 11.5 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   425 K/uL
   114 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.8 mEq/L
   27 mg/dL
   96 mEq/L
   137 mEq/L
   26.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
   WBC
   26.8
   24.2
   18.7
   15.3
   15.1
   12.4
   Hct
   33.3
   30.9
   29.4
   26.7
   29.6
   26.8
   Plt
   291
   328
   337
   [**Telephone/Fax (3) 3624**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   29
   Glucose
   132
   132
   122
   138
   119
   107
   99
   114
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: ABG-not done
   Assessment and Plan
   85 yo female admit with sepsis and respiratory failure now with good
   tolerance of continued diuresis and PSV support.  She has had excellent
   tolerance of fluid removal with Cr stable.
 SHOCK, SEPTIC
   Vanco/Cipro and for coponent likely from C. diff
   Flagyl to continue and patient with PR vanco to continue for 2 weeks
   beyond ABX
   Respiratory Failure-Will continue diruesis as tolerated.  Her
   generation of apnea may well be a central phenomona in the setting of
   significant metabolic alkalosis.  She will have trial of PSV weaning
   today.
   -RSBI favorable
   -PSV support today
   -Move to extubate today if well tolerated.
   -Diuresis may have to be done carefully in the setting of metabolic
   alkalosis which may impair respiratory drive
will replace KCl and
   utilize diamox for today to stabilize
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   on admission; improving with IVF
this has improved in normal range
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
 HYPERTENSION, BENIGN
   chronic; holding meds while with sepsis
 HYPOTHYROIDISM
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-6-21**] 04:50 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-06-21 14:00:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis, volume overload
   24 Hour Events:
   PSV trial [**11-15**] c/b periods of apnea - changed to PSV 12/10/40% w/ MMV
   10/500; subsequently changed to PSV/MMV 12/8/40% with RSBI 73; PSV
   10/5/40% with RSBI 69
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-20**] 04:12 AM
   Ciprofloxacin - [**2141-6-21**] 10:00 AM
   Metronidazole - [**2141-6-21**] 12:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-20**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-6-21**] 01:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 94 (84 - 135) bpm
   BP: 127/44(63) {88/30(45) - 156/85(80)} mmHg
   RR: 25 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  2,273 mL
                                                                  1,640 mL
   PO:
             TF:
                                                                    832 mL
                                                                    470 mL
   IVF:
                                                                  1,261 mL
                                                                    970 mL
   Blood products:
   Total out:
                                                                  7,400 mL
                                                                  3,040 mL
   Urine:
                                                                  7,320 mL
                                                                  2,990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,127 mL
                                                                 -1,400 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 490 (410 - 573) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 10.8 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   425 K/uL
   8.9 g/dL
   114 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.8 mEq/L
   27 mg/dL
   96 mEq/L
   137 mEq/L
   26.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2141-6-16**]  04:10 AM
                             [**2141-6-16**]  08:23 AM
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
   WBC
   26.8
   24.2
   18.7
   15.3
   15.1
   12.4
   Hct
   33.3
   30.9
   29.4
   26.7
   29.6
   26.8
   Plt
   291
   328
   337
   [**Telephone/Fax (3) 3624**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   29
   Glucose
   132
   132
   122
   138
   119
   107
   99
   114
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Microbiology: [**6-20**] sputum Cx -pending
   Assessment and Plan
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #11 s/p colectomy & ileostomy,
   clinically improved but volume overload remaining a barrier to
   extubation.
   .
   #Volume overload - +11 L LOS, responding well to lasix gtt
   -cont. PSV [**2073-9-9**], comfortable on those settings with good RR and Vt;
   lighten sedation as best as possible and correct underlying alkalosis
   to improve resp. drive f/b repeat ABG
   -volume goal 2-2.5 neg x 24 hrs.
   -weaning f/b SBT in AM
   .
   #Met alkalosis - [**1-7**] aggressive loop diuresis, likely chloride
   responsive
   -stop lasix gtt, give diamox 250 IV x 1
   -give 80 mg KCl, goal KCL > 4.5
   -repeat ABG when K at goal
   .
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, resolving leukocytosis.
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -cont. IV cipro (day [**10-20**])
   -contact precautions
   .
    #AFib
 HR reasonably well-controlled
   -lopressor 12.5 po BID for rate control; may titrate up if BP stable
   following diuresis and extubation
   -low-dose ASA for h/o CAD
   -defer systemic anticoagulation in case requires trach
   .
   #Pain control/sedation - pain well-controlled, patient appears
   comfortable
   -fentanyl gtt
   -versed gtt - turn off for SBT
   .
   #F/E/N:
   -volume goal 2-2.5 L negative
   -TF
s at goal
   - monitor
lytes [**Hospital1 **] and replete PRN while diuresing
   -RISS
   .
   #PPx - venodynes, SQH, PPI
   .
   #Access
 currently has R IJ triple lumen; consider d/c'ing central
   line and placing PICC
   .
   # CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].  Updated [**Doctor First Name **] on
   patient
s status yesterday.
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition: TF @ goal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2141-06-22 06:49:00 Physician Resident Progress Note
Chief Complaint: C.diff colitis s/p colectomy
   Volume overload with subsequent vent dependence
   24 Hour Events:
   Held tube feeds at midnight for possible extubation today.
   SBT was terminated due to hypertension and tachypnea.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-21**] 10:00 PM
   Metronidazole - [**2141-6-22**] 04:00 AM
   Vancomycin - [**2141-6-22**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-22**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 85 (85 - 102) bpm
   BP: 105/48(61) {88/28(45) - 152/107(111)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  2,618 mL
                                                                    416 mL
   PO:
             TF:
                                                                    820 mL
                                                                     35 mL
   IVF:
                                                                  1,447 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  5,290 mL
                                                                  1,115 mL
   Urine:
                                                                  5,090 mL
                                                                  1,095 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,672 mL
                                                                   -699 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 396 (396 - 492) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.8 L/min
   Physical Examination
   Gen: NAD, awake, answers yes/no questions, denies pain
   CV: tachycardic, no M/R/G
   Lungs: coarse bs bilaterally (posterior exam deferred), on PSV 5/5,
   minimal secretions
   Abd: obese, soft, +bs, nontender, incision c/d/I, ostomy has +output
   Ext: warm, dry, LE edema, UE edema improved, nonpalpable pedal pulses,
   1+radial pulses
   Labs / Radiology
   487 K/uL
   8.7 g/dL
   108 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   26.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
                             [**2141-6-21**]  05:27 PM
                             [**2141-6-22**]  04:35 AM
   WBC
   24.2
   18.7
   15.3
   15.1
   12.4
   12.3
   Hct
   30.9
   29.4
   26.7
   29.6
   26.8
   28.5
   26.3
   Plt
   328
   337
   336
   373
   425
   487
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   0.8
   0.8
   0.8
   0.7
   Glucose
   132
   122
   138
   119
   107
   99
   114
   106
   108
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Microbiology: [**2141-6-20**] Urine cx: yeast
   [**2141-6-20**] Sputum: gram stain: No organisms
                 culture: rare GNR
   [**2141-6-16**] blood cx: pending
   [**2141-6-14**] blood cx: no growth
   Assessment and Plan
 SHOCK, SEPTIC
   likely from C. diff
 DIARRHEA
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   on admission; improving with IVF
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
 HYPERTENSION, BENIGN
   chronic; holding meds while with sepsis
 HYPOTHYROIDISM
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #12 s/p colectomy & ileostomy,
   clinically improved but volume overload remaining a barrier to
   extubation.
   #Volume overload - +9L  LOS, responding well to lasix gtt
   -defer extubation today due to failed SBT; continue on PSV.  Lighten
   sedation as best as possible and correct underlying alkalosis to
   improve resp. drive f/b repeat ABG
   -volume goal 2-2.5 neg x 24 hrs.
   - repeat SBT in AM
   .
   #Met alkalosis - [**1-7**] aggressive loop diuresis, likely chloride
   responsive
   -stop lasix gtt, give diamox 250 IV x 1
   -give KCl prn, goal KCL > 4.5
   -repeat ABG when K at goal
   .
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, resolving leukocytosis.
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -cont. IV cipro for today will discontinue tomorrow (per surgery recs)
   -contact precautions
   .
    #AFib
 HR reasonably well-controlled
   -lopressor 12.5 po BID for rate control; may titrate up if BP stable
   following diuresis and extubation
   -low-dose ASA for h/o CAD
   -defer systemic anticoagulation in case requires trach (should know by
   [**6-26**])
   .
   #Pain control/sedation - pain well-controlled, patient appears
   comfortable
   -stop fentanyl and versed gtt; use fentanyl boluses for pain and haldol
   for agitation to minimize sedation for attempt to extubate
   #F/E/N:
   -volume goal 2-2.5 L negative
   -TF
s at goal: may resume for now but hold after midnight
   - monitor
lytes [**Hospital1 **] and replete PRN while diuresing
   -RISS
   #PPx - venodynes, SQH, PPI
   #Access
 currently has R IJ triple lumen; consider d/c'ing central
   line and placing PICC
   # CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].  Updated [**Doctor First Name **] on
   patient
s status yesterday.
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-22 09:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure/Sepsis/C. Diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with continued diuresis
   Patient with reasonable tolerance of PSV support but with some
   tachypnea noted
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-21**] 10:00 PM
   Metronidazole - [**2141-6-22**] 04:00 AM
   Vancomycin - [**2141-6-22**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2141-6-22**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 85 (85 - 102) bpm
   BP: 105/48(61) {88/28(45) - 152/107(111)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  2,618 mL
                                                                    430 mL
   PO:
             TF:
                                                                    820 mL
                                                                     35 mL
   IVF:
                                                                  1,447 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  5,290 mL
                                                                  1,115 mL
   Urine:
                                                                  5,090 mL
                                                                  1,095 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,672 mL
                                                                   -685 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 440 (396 - 492) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 15.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   487 K/uL
   108 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   26.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2141-6-16**]  03:40 PM
                             [**2141-6-17**]  03:38 AM
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
                             [**2141-6-21**]  05:27 PM
                             [**2141-6-22**]  04:35 AM
   WBC
   24.2
   18.7
   15.3
   15.1
   12.4
   12.3
   Hct
   30.9
   29.4
   26.7
   29.6
   26.8
   28.5
   26.3
   Plt
   328
   337
   336
   373
   425
   487
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   0.8
   0.8
   0.8
   0.7
   Glucose
   132
   122
   138
   119
   107
   99
   114
   106
   108
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR--
   Persistent left lower lobe collapse
   No significant right sided effusion noted
   Mild pulmonary congestion at worst which is increased from yesterday.
   Assessment and Plan
   85 yo female with C. Diff and now s/p colectomy and has reasonable
   diuresis in the setting of clinical improvement and has had good
   tolerance of PSV weaning to date.  Her tachypnea and tachycardia during
   the SBT may well be a manifestation of some evidence of centralization
   of fluid with PEEP removal and this may suggest ongoing diuresis if
   possible would be of interest.  She has had some significant
   improvement in her metabolic state and what may well have been a
   metabolic alkalosis impairing respiratory drive has largely improved.
 SHOCK, SEPTIC
   -likely from C. diff--Flagyl IV, vanco PR
   -Cipro to D/C tomorrow
   -Hemodynamics now notable for tachycardia
   Respiratory Failure-
   She has persistent volume overload (CXR and SBT failure) which may be
   driving of the compromised respiratory status.  SBT failure was defined
   by tachycardia/hypertension.  In addition she has some component of
   anxiety which is driving some of the tachypnea but the extent to which
   this is a complete answer is unclear.
   [**Name2 (NI) **]
   -diurese 2 liters today
   -Fentanyl PRN for pain
   -Haldol [**Hospital1 **] for anxiety/agitation
   -She has had reasonable stability with PSV and hope to move towards
   optimal fluid status and trial of extubation tomorrow.
   -Lasix for diuresis after second day of diamox.
   -Will repeat SBT this afternoon after further optimization of above
   -Trach and PEG on Monday if not successful in extubation this
   week/weekend
 DIARRHEA
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   on admission; improving with IVF
 ATRIAL FIBRILLATION (AFIB)
   on coumadin and lopressor
 HYPERTENSION, BENIGN
   chronic; holding meds while with sepsis
 HYPOTHYROIDISM
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-06-23 07:46:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis, failure to wean
   24 Hour Events:
   SBT this AM stopped [**1-7**] tachypnea, tachycardia, HTN; RBSI 108; placed
   on PSV 15/8 40% FiO2
   T102.1 @ 0800
 blood, urine Cx
   WBC 12.3
26.5
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-22**] 10:00 PM
   Metronidazole - [**2141-6-23**] 04:00 AM
   Vancomycin - [**2141-6-23**] 04:00 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-23**] 12:00 AM
   Fentanyl - [**2141-6-23**] 04:30 AM
   Furosemide (Lasix) - [**2141-6-23**] 04:30 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt denies abd pain, nausea
   Flowsheet Data as of  [**2141-6-23**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 102.1
   Tcurrent: 37.1
C (98.8
   HR: 107 (101 - 125) bpm
   BP: 96/38(81) {91/38(59) - 167/75(93)} mmHg
   RR: 26 (18 - 40) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,321 mL
                                                                    201 mL
   PO:
             TF:
                                                                     35 mL
   IVF:
                                                                    876 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                    660 mL
   Urine:
                                                                  4,480 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,179 mL
                                                                   -459 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 425 (0 - 564) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 39 cmH2O
   SpO2: 100%/
   Ve: 10.9 L/min
   Physical Examination
   GEN: intubated, sedated but arousable, follows commands
   HEENT: maxillary sinuses NT to pal
   NECK: R IJ site with scant erythema but not warm, tender
   CV: irreg irreg no m/r/g
   PULM: decr. BS @ bases, otherwise clear anteriorly
   ABD: hypoactive BS, NTND, wound without erythema, drainage; ostomy site
   intact
   EXT: warm, dry 2+ LE edema
   Labs / Radiology
   715 K/uL
   10.1 g/dL
   117 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   31.9 %
   26.5 K/uL
        [image002.jpg]
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
                             [**2141-6-21**]  05:27 PM
                             [**2141-6-22**]  04:35 AM
                             [**2141-6-22**]  04:09 PM
                             [**2141-6-23**]  03:35 AM
   WBC
   18.7
   15.3
   15.1
   12.4
   12.3
   26.5
   Hct
   29.4
   26.7
   29.6
   26.8
   28.5
   26.3
   31.9
   Plt
   [**Telephone/Fax (3) 3679**]
   Cr
   0.7
   0.7
   0.7
   0.8
   0.8
   0.8
   0.8
   0.7
   0.8
   0.8
   Glucose
   138
   119
   107
   99
   114
   106
   108
   91
   117
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #13 s/p colectomy & ileostomy,
   volume status improved with diuresis but failure to wean [**1-7**] agitation
   and new fever, leukocytosis.
   .
   #Fever/leukocytosis
 possible sources incl. line infection, recurrent
   colitis, abscess, acalculous cholecystis, UTI, sinusitis; FUO also
   invokes PE, drug rxn (but should not also produce leukocytosis)
   -replace central line (day 15)
   -hold off on ABX until
   -blood, urine Cx pending
   -CT torso w/ contrast today
 read pending
   -WBC diff pending
   .
   #Volume overload - +6L  [**Location 3684**] extubation today due to failed SBT; continue on PSV.  Lighten
   sedation as best as possible and correct underlying alkalosis to
   improve resp. drive f/b repeat ABG
   -volume goal 2-2.5 neg x 24 hrs.
   - repeat SBT in AM
   .
   #Met alkalosis - [**1-7**] aggressive loop diuresis, likely chloride
   responsive
   -stop lasix gtt, give diamox 250 IV x 1
   -give KCl prn, goal KCL > 4.5
   -repeat ABG when K at goal
   .
   #C. diff sepsis
 Clinically no longer in shock, off pressors,
   afebrile, resolving leukocytosis.
   -IV flagyl for c. diff cov
g; PR vanco to treat rectal mucosa
   -cont. IV cipro for today will discontinue tomorrow (per surgery recs)
   -contact precautions
   .
    #AFib
 HR reasonably well-controlled
   -lopressor 12.5 po BID for rate control; may titrate up if BP stable
   following diuresis and extubation
   -low-dose ASA for h/o CAD
   -defer systemic anticoagulation in case requires trach (should know by
   [**6-26**])
   .
   #Pain control/sedation - pain well-controlled, patient appears
   comfortable
   -stop fentanyl and versed gtt; use fentanyl boluses for pain and haldol
   for agitation to minimize sedation for attempt to extubation
   #F/E/N:
   -volume goal 2-2.5 L negative
   -TF
s at goal: may resume for now but hold after midnight
   - monitor
lytes [**Hospital1 **] and replete PRN while diuresing
   - RISS
   .
   #PPx - venodynes, SQH, PPI
   .
   #Access
 change CVC today (day 15)
   .
   # CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM; to be changed today
   Prophylaxis:
   DVT: PPI
   Stress ulcer: SQH
   Code status: Full code
   Disposition: ICU

2141-06-23 09:00:00 Physician Attending Progress Note
Chief Complaint: C. Diff Colitis
   S/P Colectomy
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt. with tachypnea and tachycardia continuing
   Pt. with persistent [**Name (NI) 3504**]
   Pt. with fever this morning--102.1F
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-22**] 10:00 PM
   Metronidazole - [**2141-6-23**] 04:00 AM
   Vancomycin - [**2141-6-23**] 04:00 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-23**] 12:00 AM
   Fentanyl - [**2141-6-23**] 04:30 AM
   Furosemide (Lasix) - [**2141-6-23**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2141-6-23**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 107 (101 - 125) bpm
   BP: 96/38(81) {91/38(59) - 167/75(93)} mmHg
   RR: 26 (18 - 40) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  1,321 mL
                                                                    208 mL
   PO:
             TF:
                                                                     35 mL
   IVF:
                                                                    876 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                    660 mL
   Urine:
                                                                  4,480 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,179 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 425 (0 - 564) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 39 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, No(t) Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   715 K/uL
   117 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   31.9 %
   26.5 K/uL
        [image002.jpg]
                             [**2141-6-17**]  04:45 PM
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
                             [**2141-6-21**]  05:27 PM
                             [**2141-6-22**]  04:35 AM
                             [**2141-6-22**]  04:09 PM
                             [**2141-6-23**]  03:35 AM
   WBC
   18.7
   15.3
   15.1
   12.4
   12.3
   26.5
   Hct
   29.4
   26.7
   29.6
   26.8
   28.5
   26.3
   31.9
   Plt
   [**Telephone/Fax (2) 3679**]
   Cr
   0.7
   0.7
   0.7
   0.8
   0.8
   0.8
   0.8
   0.7
   0.8
   0.8
   Glucose
   138
   119
   107
   99
   114
   106
   108
   91
   117
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:84.0 %, Band:5.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   85 yo female admit with C. Diff colitis and now s/p colectomy who has
   had ongoing management of respiratory failure and is complicated by
   some volume overload, some significant atrial tachycardia and now with
   recurrent fevers overnight.

 SHOCK, SEPTIC
   likely from C. diff; post-op
   Patient now with recurrent fevers noted and source of infection not
   clear
   -Will pursue
   -Cipro/Flagyl with Cipro planned to be discontinued today
   -Vanco PR and Flagyl IV to continue
   RESPIRATORY FAILURE
   She has ongoing issues of altered mental status but the most concerning
   acute issue is the evolution of new fever.  Will move to continue full
   support and the patient will likely need trach and PEG based upon
   current clinical course and compromised status.
   -Maintain full ventilatory support today
   -Metabolic alkalosis resolved
   -Will continue with Haldol titration and consider propofol appropriate
   for short term support but should prolonged course be expected will
   move to Versed/Fentanyl
   FEVER-
   -Will need CT torso
   -Will add CT head for sinusitis in the setting of NGT
   -Will change CVL with new site if alternative source not clearly
   defined
   -Will consider antibiotic choice based upon review of studies and
   consideration of bandemia
   -Will pursue bronchoscopy with BAL if infiltrates persist or are
   evolving for possible VAP
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt; waiting to restart until extubated
   Will need persistent and improved rated control--Lopressor
 HYPERTENSION, BENIGN
   chronic; on low dose metoprolol post-op; will ptitrate
 HYPOTHYROIDISM
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   volume overloaded in post-op setting
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Presep Catheter - [**2141-6-8**] 08:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: Prophylaxis in place
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-06-24 07:36:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis, failure to wean
   24 Hour Events:
   Vanco IV started for empiric cov'g presumed line infection in the
   setting of fever/leukocytosis; R IJ removed, L IJ placed
   Lasix 40 mg IV x 1 @ 2100 f/b 750 cc UOP over 6 hrs.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-22**] 10:00 PM
   Metronidazole - [**2141-6-24**] 04:00 AM
   Vancomycin - [**2141-6-24**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies pain, discomfort
   Flowsheet Data as of  [**2141-6-24**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.3
C (99.2
   HR: 94 (87 - 124) bpm
   BP: 94/54(63) {76/35(48) - 136/65(81)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  1,609 mL
                                                                    631 mL
   PO:
             TF:
                                                                    203 mL
                                                                     70 mL
   IVF:
                                                                    696 mL
                                                                    531 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    910 mL
   Urine:
                                                                  1,555 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -696 mL
                                                                   -279 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (430 - 489) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9 L/min
   Physical Examination
   GEN: Intubated, sedated but arousable
   NECK: L IJ site c/d/i
   CV: irreg irreg no m/r/g
   PULM: clear anteriorly decr. BS at bases
   ABD: soft, NTND, +BS; wound c/d/i, ostomy site intact
   EXT: warm, dry +LE edema
   Labs / Radiology
   581 K/uL
   8.4 g/dL
   97 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.2 mEq/L
   20 mg/dL
   103 mEq/L
   139 mEq/L
   25.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2141-6-18**]  05:32 AM
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
                             [**2141-6-21**]  05:27 PM
                             [**2141-6-22**]  04:35 AM
                             [**2141-6-22**]  04:09 PM
                             [**2141-6-23**]  03:35 AM
                             [**2141-6-24**]  04:30 AM
   WBC
   18.7
   15.3
   15.1
   12.4
   12.3
   26.5
   15.8
   Hct
   29.4
   26.7
   29.6
   26.8
   28.5
   26.3
   31.9
   25.2
   Plt
   [**Telephone/Fax (3) 3679**]
   581
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   Glucose
   138
   119
   107
   99
   114
   106
   108
   91
   117
   97
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:89.8 %, Band:5.0 %,
   Lymph:5.7 %, Mono:4.1 %, Eos:0.2 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #13 s/p colectomy & ileostomy,
   volume status improved with diuresis but failure to wean and new fever,
   leukocytosis.
   .
   #Fever/leukocytosis
 WBC down, has not been febrile since AM [**6-23**];
   possible sources incl. line infection, recurrent colitis, abd abscess,
   acalculous cholecystis, UTI, sinusitis; FUO also invokes PE, drug rxn
   (but should not cause leukocytosis)
   -vanco IV started empirically for presumed line infection; cont. IV
   flagyl
   -central line changed [**6-23**]; old line tip Cx pending
   -CT torso w/ contrast prelim did not reveal source of infection
   -blood, urine Cx pending
   .
   #Failure to wean
 [**1-7**] agitation, volume overload resolving met
   alkalosis producing decr. drive
   -adeq. minute ventilation on PSV [**2073-9-9**], cont. current settings with
   improved RBSI; attempt SBT today
   -continue diuresis
   .
   #Volume overload - +6L  [**Hospital1 3690**] lasix to volume goal -2L/day
   .
   #Met alkalosis - [**1-7**] aggressive loop diuresis, likely chloride
   responsive; improved with KCL, diamox
   .
   #C. diff colitis
 Clinically no longer in shock, off pressors,
   afebrile, resolving leukocytosis.
   -IV flagyl (day 15) for c. diff cov
g; PR vanco (day 11) to treat
   rectal mucosa; determine duration of therapy
   -contact precautions
   .
   #AFib
 HR still >100
   -lopressor incr. to 25 PO BID for rate control
   -low-dose ASA for h/o CAD
   -defer systemic anticoagulation in case requires trach (prelim [**6-26**])
   .
   #Pain control/sedation
 pain well-controlled
   -d/c propofol gtt, restart fentanyl, versed as expect to remain on vent
   -consider fentanyl patch to avoid withdrawl after extubation
   .
   #F/E/N:
   -repleted K; [**Hospital1 **] lytes while diuresing
   - volume goal -2 L
   -TF
   - RISS
   .
   #PPx - SQH, PPI
   .
   #Access
 L IJ, PIV
   .
   # CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Code status: Full code
   Disposition:ICU

2141-06-24 11:03:00 Physician Attending Progress Note
Chief Complaint:
   C. Diff Colitis
   S/P Colectomy
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo female admitted with C. Diff colitis now s/p colectomy course c/b
   respiratory failure and FTW in setting of  volume overload, med
   effects/AMS, atrial tachycardia. Had recurrent fevers and leukocytosis
   yesterday but much improved this am.
   24 Hour Events:
 BLOOD CULTURED - At [**2141-6-23**] 08:00 AM
 SPUTUM CULTURE - At [**2141-6-23**] 08:15 AM
 URINE CULTURE - At [**2141-6-23**] 08:15 AM
 BLOOD CULTURED - At [**2141-6-23**] 08:30 AM
 MULTI LUMEN - START [**2141-6-23**] 05:00 PM
   pt spiked...line changed
 PRESEP CATHETER - STOP [**2141-6-23**] 05:15 PM
 FEVER - 102.1
F - [**2141-6-23**] 08:00 AM
   ct torso--prelim no any acute findings, no abscess, new pna
   received lasix 40 iv overnight with diuresis
   sbt this am
     abg 7.47/39/90
     rsbi 80
   now on PS/P [**4-10**]
   History obtained from ho
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-22**] 10:00 PM
   Metronidazole - [**2141-6-24**] 04:00 AM
   Vancomycin - [**2141-6-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-24**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 100 (87 - 110) bpm
   BP: 113/53(66) {76/35(48) - 136/60(78)} mmHg
   RR: 28 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  1,609 mL
                                                                    997 mL
   PO:
             TF:
                                                                    203 mL
                                                                     70 mL
   IVF:
                                                                    696 mL
                                                                    847 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                  1,175 mL
   Urine:
                                                                  1,555 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -696 mL
                                                                   -178 mL
   Respiratory support
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 440 (430 - 489) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.47/39/90.[**Numeric Identifier 128**]/28/4
   Ve: 6.8 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, good cough and gag
   Labs / Radiology
   8.4 g/dL
   581 K/uL
   97 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.2 mEq/L
   20 mg/dL
   103 mEq/L
   139 mEq/L
   25.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2141-6-19**]  04:34 AM
                             [**2141-6-20**]  04:32 AM
                             [**2141-6-20**]  05:36 PM
                             [**2141-6-21**]  03:37 AM
                             [**2141-6-21**]  05:27 PM
                             [**2141-6-22**]  04:35 AM
                             [**2141-6-22**]  04:09 PM
                             [**2141-6-23**]  03:35 AM
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
   WBC
   15.3
   15.1
   12.4
   12.3
   26.5
   15.8
   Hct
   26.7
   29.6
   26.8
   28.5
   26.3
   31.9
   25.2
   Plt
   [**Telephone/Fax (3) **]87
   715
   581
   Cr
   0.7
   0.8
   0.8
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TCO2
   29
   Glucose
   119
   107
   99
   114
   106
   108
   91
   117
   97
   Other labs: PT / PTT / INR:14.8/49.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:89.8 %, Band:5.0 %,
   Lymph:5.7 %, Mono:4.1 %, Eos:0.2 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: cxr--et ok, l ij ok, clear r side, left cut off, likely small
   effusion/interstitial markings
   ct torso
   Microbiology: blood pending, line tip pending
   Assessment and Plan
   85 yo female admitted with C. Diff colitis now s/p colectomy course c/b
   respiratory failure and FTW in setting of  volume overload, med
   effects/AMS, atrial tachycardia. Had recurrent fevers and leukocytosis
   yesterday but much improved this am.
   Primary issues remain:
   # SHOCK, SEPTIC--resolved
   likely from C. diff; post-op, ? ischemic colitis/bowel translocation,
   now s/p 2 wks cipro
   --continues on Vanco PR and Flagyl IV  (will need 2 wks post other
   antibx)
   # RESPIRATORY FAILURE
   FTW multifactorial --> volume overload, meds/sedation/MS
    Had recurrent ever and leukocytosis yesterday, but  has resolved
line
   was changed and ct torso rather unimpressive
     Doing well on minimal vent support with rsbi 80
     Off all sedation, alert and followoing commands
   --will move forward with extubation
   --gently diurese prior to removal of PPV
   --goal neg i/o as BP tolerates
   # FEVER-
   - empiric IV vanco started yesterday, will continue  pending cx data
   neg X 48 hrs, line changed
   - AF now with wbc back to prior baseline, though still elevated
   - if has recurrent temps would broaden for [**Hospital **] hospital coverage, check
   CT head for sinusitis in the setting of NGT, check
   dopplers
   #leukocytosis-
   Doubled yesterday and now back to prior baseline (? C diff related)
   Remains elevated
   f/u cx data
   consider ct, w/u as above
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt; waiting to restart until extubated (given
   potential need for trach/peg)
   Will need persistent and improved rated control--Lopressor
 HYPERTENSION, BENIGN
   metoprolol
 HYPOTHYROIDISM
   continue synthroid
   ICU Care
   Nutrition:
   Hold TFs for extubation, will need swallow eval
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Critically ill
   Total time spent: 40

2141-06-25 07:46:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure secondary to fluid overload
   C. diff coliitis s/p colectomy [**2141-6-9**]
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-6-24**] 11:13 AM
   Pt extubated yesterday.  Doing well on high-flow facemask.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-22**] 10:00 PM
   Vancomycin - [**2141-6-24**] 08:45 PM
   Metronidazole - [**2141-6-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2141-6-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-25**] 12:04 AM
   Furosemide (Lasix) - [**2141-6-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 109 (90 - 123) bpm
   BP: 113/46(64) {90/39(52) - 140/115(121)} mmHg
   RR: 33 (16 - 39) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  1,830 mL
                                                                    188 mL
   PO:
             TF:
                                                                     70 mL
   IVF:
                                                                  1,420 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    930 mL
   Urine:
                                                                  2,540 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: 7.46/38/69/27/2
   PaO2 / FiO2: 138
   Physical Examination
   Gen: NAD, aao
   CV: distant heart sounds, tachycardic, irregular rhythm
   Lungs: mild labored breathing on facemask, course breath sounds
   diffusely (mild improvement with cough)
   Abd: +bs, soft, ntnd, incision c/d/I, ostomy + output
   Ext: warm, 2+ edema LE, 1+ radial pulses, nonpalpable pedal pulses, no
   cyanosis
   Labs / Radiology
   731 K/uL
   9.1 g/dL
   105 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   17 mg/dL
   106 mEq/L
   141 mEq/L
   27.9 %
   14.6 K/uL
        [image002.jpg]
                             [**2141-6-21**]  03:37 AM
                             [**2141-6-21**]  05:27 PM
                             [**2141-6-22**]  04:35 AM
                             [**2141-6-22**]  04:09 PM
                             [**2141-6-23**]  03:35 AM
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
                             [**2141-6-24**]  02:26 PM
                             [**2141-6-24**]  07:38 PM
                             [**2141-6-25**]  04:40 AM
   WBC
   12.4
   12.3
   26.5
   15.8
   14.6
   Hct
   26.8
   28.5
   26.3
   31.9
   25.2
   27.9
   Plt
   [**Telephone/Fax (3) 3714**]81
   731
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.7
   0.7
   TCO2
   29
   28
   Glucose
   114
   106
   108
   91
   117
   97
   91
   105
   Other labs: PT / PTT / INR:15.3/29.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:89.8 %, Band:5.0 %,
   Lymph:5.7 %, Mono:4.1 %, Eos:0.2 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   [**2141-6-25**] Vanco: pending
   [**6-25**] blood cx: pending
   [**6-23**] urine cx: yeast >100,000
   Assessment and Plan
 SHOCK, SEPTIC
   likely from C. diff; post-op
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt; waiting to restart until extubated
 HYPERTENSION, BENIGN
   chronic; on low dose metoprolol post-op; will ptitrate
 HYPOTHYROIDISM
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   volume overloaded in post-op setting
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #14 s/p colectomy & ileostomy,
   volume status improved with diuresis but failure to wean and new fever,
   leukocytosis.
   .
   #Fever/leukocytosis
 WBC down, has not been febrile since AM [**6-23**];
   suspect transient bacteremia from central line; CT torso unrevealing;
   also consider sinusitis, UTI; fever also invokes PE, drug rxn (but
   should not cause leukocytosis)
   -cont. vanco IV for presumed line infection x 48 hrs, until culture
   data avail.
   -IV flagyl on board for c. diff; consider broading ABX for cov
g gram
   neg (and re-culture) if fever recurs
   -central line changed [**6-23**]; old line tip Cx pending
   -blood, urine Cx pending
   .
   #Failure to wean
 [**1-7**] agitation, volume overload, resolving met
   alkalosis producing decr. drive
   -adeq. minute ventilation on PSV 5/0, anticipate extubation today
   -continue diuresis follow extubation with PRN lasix as BP allows
   .
   #Volume overload - +6L  [**Location 3692**] lasix to volume goal -2L x 24 hrs.
   .
   #C. diff colitis
 s/p definitive surgical therapy
   -IV flagyl (day 15) for c. diff cov
g, cont. x 14 days beyond tx with
   other ABX
   -PR vanco (day 11) to treat rectal mucosa
   -contact precautions
   .
   #AFib
 HR still >100
   -lopressor 25 PO BID for rate control, uptitrate as BP allows
   -low-dose ASA for h/o CAD
   -consider restarting anticoagulation if stable after extubation
   .
   #Pain control/sedation
 pain well-controlled
   -fentanyl, versed gtt while on vent
   .
   #F/E/N:
   -repleted K; [**Hospital1 **] lytes while diuresing
   - volume goal -2 L
   -TF
   - RISS
   .
   #PPx - SQH, PPI
   .
   #Access
 L IJ (day 2), PIV
   .
   # CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].
   .
   #CODE STATUS: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-25 11:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo female admitted with C. Diff colitis now s/p colectomy course c/b
   respiratory failure and FTW in setting of  volume overload, med
   effects/AMS, atrial tachycardia.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-6-24**] 11:13 AM
   extubated yesterday
   lasix yesterday
   History obtained from Patient, ho
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-22**] 10:00 PM
   Vancomycin - [**2141-6-24**] 08:45 PM
   Metronidazole - [**2141-6-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2141-6-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-25**] 12:04 AM
   Furosemide (Lasix) - [**2141-6-25**] 04:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-25**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 119 (100 - 123) bpm
   BP: 133/52(73) {104/39(56) - 146/115(121)} mmHg
   RR: 36 (16 - 39) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  1,830 mL
                                                                    207 mL
   PO:
             TF:
                                                                     70 mL
   IVF:
                                                                  1,420 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                  1,250 mL
   Urine:
                                                                  2,540 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                 -1,043 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.46/38/69/27/2
   PaO2 / FiO2: 1,725
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   731 K/uL
   105 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   17 mg/dL
   106 mEq/L
   141 mEq/L
   27.9 %
   14.6 K/uL
        [image002.jpg]
                             [**2141-6-21**]  03:37 AM
                             [**2141-6-21**]  05:27 PM
                             [**2141-6-22**]  04:35 AM
                             [**2141-6-22**]  04:09 PM
                             [**2141-6-23**]  03:35 AM
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
                             [**2141-6-24**]  02:26 PM
                             [**2141-6-24**]  07:38 PM
                             [**2141-6-25**]  04:40 AM
   WBC
   12.4
   12.3
   26.5
   15.8
   14.6
   Hct
   26.8
   28.5
   26.3
   31.9
   25.2
   27.9
   Plt
   [**Telephone/Fax (3) 3714**]81
   731
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.7
   0.7
   TCO2
   29
   28
   Glucose
   114
   106
   108
   91
   117
   97
   91
   105
   Other labs: PT / PTT / INR:15.3/29.1/1.3, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:89.8 %, Band:5.0 %,
   Lymph:5.7 %, Mono:4.1 %, Eos:0.2 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: no new cxr
   Microbiology: urine cx--yeast
   bl ngtd
   line tip ngtd
   Assessment and Plan
   85 yo female admitted with C. Diff colitis now s/p colectomy course c/b
   respiratory failure and FTW in setting of  volume overload, med
   effects/AMS, atrial tachycardia. Had recurrent fevers and leukocytosis
   Friday but resolved after line d/c and empiric vanco.  Extubated
   yesterday.
   Primary issues remain:
   # SHOCK, SEPTIC--resolved
   likely from C. diff; post-op, ? ischemic colitis/bowel translocation,
   now s/p 2 wks cipro
   --continues Flagyl IV  (will need 2 wks post other antibx), PR vanco
   d/c
d yesterday
   -empiric iv vanco since [**6-23**] for ? line/skin inf
   # RESPIRATORY FAILURE
   #effusions
   Extubated yesterday and doing well on minimal NC
   --continue gently diureses
   --goal neg i/o as BP tolerates
   # FEVER
   -- C diff treatment as above
   -- empiric IV vanco started [**6-23**] for ? line inf/, will continue
   pending cx data neg X 48 hrs, line changed
   - AF since with wbc back to prior baseline and trending down
   #leukocytosis-
   Doubled yesterday and then back to prior baseline (? C diff related)
   Remains elevated though trending down
   f/u cx data, empiric vanco pending cx data
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt, golidng, would restart (talk with surgery)
   metoprolol
 HYPERTENSION, BENIGN
   Metoprolol, may need to change to IV pending swallow assessment
   Would restart captopril for afterload reduction as BP tolerates
 HYPOTHYROIDISM
   continue synthroid
   #Yeast UTI
change foley
   ICU Care
   Nutrition: clears with careful supervision, swallow eval
   Glycemic Control:  not indicated
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition keep in ICU today
   Total time spent: 40 minutes

2141-06-26 07:13:00 Physician Resident Progress Note
Chief Complaint: volume overload and leukocytosis
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #16 s/p colectomy & ileostomy,
   volume status improved with diuresis but failure to wean and new fever,
   leukocytosis.
   24 Hour Events:
   yeast in urine.  Foley taken out but new one not placed.  Patient
   urinated on own x2. Patient incotinent so volume not recorded.
   OOB to chair and to work with PT
   Started captopril (on lisinopril at home)
   Subjective:
   no complaints this am.
   Not yet eating.  Tolerating clear liquid diet.
   Pt prefers not to have foley replaced.
   Breathing well off vent.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-25**] 09:12 PM
   Metronidazole - [**2141-6-26**] 04:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-26**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 120 (94 - 122) bpm
   BP: 161/59(94) {108/45(63) - 161/92(100)} mmHg
   RR: 33 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                    650 mL
                                                                    160 mL
   PO:
                                                                     30 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    570 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                      0 mL
   Urine:
                                                                  1,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -705 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula  2L
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Gen: patient a&o x3, nad, hoarse voice
   Neck: L IJ in place, no erythema
   Lungs:  end expiratoy rhonchi likely due to upper airway secretions
   CV:  rapid rate, regular rhythm, s1 & s2 nl, no m/r/g
   abd:+ bs, incision with staples removed, steri-strips in place, minimal
   erythema, non-tender, obese
   Ext: edema improved in all extremeties.
   Labs / Radiology
   844 K/uL
   9.8 g/dL
   97 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   108 mEq/L
   143 mEq/L
   30.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2141-6-22**]  04:35 AM
                             [**2141-6-22**]  04:09 PM
                             [**2141-6-23**]  03:35 AM
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
                             [**2141-6-24**]  02:26 PM
                             [**2141-6-24**]  07:38 PM
                             [**2141-6-25**]  04:40 AM
                             [**2141-6-25**]  04:00 PM
                             [**2141-6-26**]  06:00 AM
   WBC
   12.3
   26.5
   15.8
   14.6
   13.8
   Hct
   26.3
   31.9
   25.2
   27.9
   30.3
   Plt
   487
   715
   581
   731
   844
   Cr
   0.7
   0.8
   0.8
   0.8
   0.7
   0.7
   0.7
   0.7
   TCO2
   29
   28
   Glucose
   108
   91
   117
   97
   91
   105
   97
   Other labs: PT / PTT / INR:16.0/28.7/1.4,
   CK / CKMB / Troponin-T:26/2/<0.01,
   ALT / AST:12/34, Alk Phos / T Bili:94/0.2, Amylase / Lipase:17/31,
   Differential-Neuts:89.8 %, Band:5.0 %, Lymph:5.7 %, Mono:4.1 %, Eos:0.2
   %,
   Fibrinogen:508 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200
   IU/L,
    Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: Vanco 23.0 (high)
   Imaging: no new.
   Microbiology: R IJ tip cx - neg.
   4 blood cx -NGTD but 6 negative
   Sputum - contaminated
   Urine - yeast x2 (large amount in one cx)
   Assessment and Plan
 SHOCK, SEPTIC
   likely from C. diff; post-op
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt; waiting to restart until extubated
 HYPERTENSION, BENIGN
   chronic; on low dose metoprolol post-op; will ptitrate
 HYPOTHYROIDISM
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   volume overloaded in post-op setting
   ASSESSMENT & PLAN:
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #16 s/p colectomy & ileostomy,
   volume status improved with diuresis but failure to wean and new fever,
   leukocytosis.
   #Fever/leukocytosis
 WBC down, has not been febrile since AM [**6-23**];
   suspect transient bacteremia from central line; CT torso unrevealing;
   also consider sinusitis, UTI; fever also invokes PE, drug rxn (but
   should not cause leukocytosis)
   -cont. vanco IV for presumed line infection until culture data avail.
   but will decrease dose to 750 mg Q12 due to 2 high vanco trough levels
   in a row.
   -IV flagyl on board for c. diff; consider broading ABX for cov
g gram
   neg (and re-culture) if fever recurs
   -central line changed [**6-23**]; old line tip Cx pending
   -blood, urine Cx pending
   #Volume overload - +4L  [**Location 3741**] actually appears a little dry on exam today
   -goal even for today.
   #Tachycardia
 most likely due to volume depletion.
   - IVF bolus to see HR responsive to fluids.
   - increase dose of lopressor to 37.5 mg today.
   #C. diff colitis
 s/p definitive surgical therapy
   -IV flagyl (day 15) for c. diff cov
g, cont. x 14 days beyond tx with
   other ABX
   -contact precautions
   #AFib
 HR still >100
   -lopressor tritrate to 37.5 mg [**Hospital1 **] today.
   -low-dose ASA for h/o CAD
   -surgery does not wish to restart coumadin.  Patient should have
   coumadin restarted prior to d/c.
   - pt on lisinopril at home; will titrate low dose captopril to
   determine lisinopril dosage
   #Pain control/sedation
 pain well-controlled
   - treat pain with tylenol and morphine
   #F/E/N:
   -repleted K; [**Hospital1 **] lytes while diuresing
   - volume goal even
   -advance diet to full liquids
 consider advancing to regular diet
   tomorrow.
   - RISS
   #PPx - SQH, PPI
   #Access
 L IJ (day 3), PIV
   # CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].
   #CODE STATUS: FULL
   #dispo: continue to monitor for tachycardia.  Likely transfer to floor
   tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-26 11:51:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Fever--S/P line change and no recurrent fevers noted.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-25**] 09:12 PM
   Metronidazole - [**2141-6-26**] 04:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-26**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 116 (94 - 122) bpm
   BP: 146/61(82) {108/45(63) - 161/92(100)} mmHg
   RR: 28 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                    650 mL
                                                                    240 mL
   PO:
                                                                     30 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    570 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    150 mL
   Urine:
                                                                  1,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -705 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Hypoactive bowel sounds
   Extremities: Decreased Edema Throughout
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person and Place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   844 K/uL
   97 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   108 mEq/L
   143 mEq/L
   30.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2141-6-22**]  04:35 AM
                             [**2141-6-22**]  04:09 PM
                             [**2141-6-23**]  03:35 AM
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
                             [**2141-6-24**]  02:26 PM
                             [**2141-6-24**]  07:38 PM
                             [**2141-6-25**]  04:40 AM
                             [**2141-6-25**]  04:00 PM
                             [**2141-6-26**]  06:00 AM
   WBC
   12.3
   26.5
   15.8
   14.6
   13.8
   Hct
   26.3
   31.9
   25.2
   27.9
   30.3
   Plt
   487
   715
   581
   731
   844
   Cr
   0.7
   0.8
   0.8
   0.8
   0.7
   0.7
   0.7
   0.7
   TCO2
   29
   28
   Glucose
   108
   91
   117
   97
   91
   105
   97
   Other labs: PT / PTT / INR:16.0/28.7/1.4, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Fibrinogen:508 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Microbiology: BC all with no growth to date
   R-IJ no growth
   Assessment and Plan
   85 yo female admit with C.Diff and s/p colectomy now has had
   improvement in volume overload and respiratory failure now has
   tolerated extubation over this past weekend.  She has not had recurrent
   fevers in the setting of line change and antibiotic changes.
 SHOCK, SEPTIC
   likely from C. diff; post-op and improved hemodynamics
   -Patient currently on Flagyl/Vanco PR and Vanco IV
   -Recurrent fever, WBC count may well have been related to CVL
would
   favor 7d treatment in setting of line change
   -Improved hemodynamics at this time
   -Keep even or positive volume status in setting of resolving sepsis
   Respiratory Failure-
   -Successful extubation, will need to get OOB to chair and begin PT
   program to mobilize and optimize respiratory status.
   -Supervised feeds as aspiration risk is probably primary barrier
   -Volume status is near euvolemic and would not favor further diruesis
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt; waiting to restart until extubated
   Lopressor and ASA
   Hold anti-coagulation until extubation successful
will have to be a
   long term decision
 HYPERTENSION, BENIGN
   chronic; on low dose metoprolol post-op; will ptitrate
   Captopril
   Lopressor
 HYPOTHYROIDISM
   -Synthroid
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   volume overloaded in post-op setting
   ICU Care
   Nutrition: Supervise PO intake
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2141-06-27 07:00:00 Physician Resident Progress Note
Chief Complaint: volume overload s/p colectomy after C. diff colitis
   24 Hour Events:
 BLOOD CULTURED - At [**2141-6-27**] 04:54 AM
   Tachycardia responded minimally to fluid bolus and increased lopressor
   (37.5mg po bid)  yesterday.
   OOB to chair.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-26**] 08:00 PM
   Metronidazole - [**2141-6-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-6-26**] 09:55 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-27**] 12:31 AM
   Furosemide (Lasix) - [**2141-6-27**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-27**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 101 (96 - 122) bpm
   BP: 139/54(76) {123/49(69) - 164/80(99)} mmHg
   RR: 28 (25 - 40) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  1,440 mL
                                                                    255 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                  1,350 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                    470 mL
   Urine:
                                                                    250 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,020 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Gen: NAD, aao
   CV:  irregular rhythm tachycardic, no M/R/G
   Lungs: diffuse wheezing and course bs, moderate improvement after cough
   Abd: incision c/d/I, + ostomy output, +bs, mild tenderness,
   nondistended
   Ext: warm, dry, edema improved, 1+ pedal and radial pulses
   Labs / Radiology
   840 K/uL
   9.5 g/dL
   106 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   14 mg/dL
   110 mEq/L
   145 mEq/L
   29.7 %
   12.0 K/uL
        [image002.jpg]
                             [**2141-6-23**]  03:35 AM
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
                             [**2141-6-24**]  02:26 PM
                             [**2141-6-24**]  07:38 PM
                             [**2141-6-25**]  04:40 AM
                             [**2141-6-25**]  04:00 PM
                             [**2141-6-26**]  06:00 AM
                             [**2141-6-26**]  04:44 PM
                             [**2141-6-27**]  04:17 AM
   WBC
   26.5
   15.8
   14.6
   13.8
   12.0
   Hct
   31.9
   25.2
   27.9
   30.3
   29.7
   Plt
   [**Telephone/Fax (3) 3750**]44
   840
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   29
   28
   Glucose
   117
   97
   91
   105
   97
   102
   106
   Other labs: PT / PTT / INR:16.5/31.4/1.5, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:89.8 %, Band:5.0 %,
   Lymph:5.7 %, Mono:4.1 %, Eos:0.2 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   [**2141-6-27**] Blood cx: pending
   [**2141-6-25**] Blood cx: pending
   [**2141-6-24**] IV catheter tip cx: no growth
   [**2141-6-23**] CT Abd:  7 mm noncalcified pulm nodule in RLL base,
   angiomyolipoma of R kidney (most likely congenital in nature); fibroid
   uterus with extensive calcification.
   Assessment and Plan
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #16 s/p colectomy & ileostomy,
   volume status improved with diuresis but failure to wean and new fever,
   leukocytosis.
   #Fever/leukocytosis
 WBC down, has not been febrile since AM [**6-23**];
   suspect transient bacteremia from central line; CT torso unrevealing;
   also consider sinusitis, UTI; fever also invokes PE, drug rxn (but
   should not cause leukocytosis)
   -cont. vanco IV (5/14days) for presumed line infection until culture
   data available; check trough
   -IV flagyl on board for c. diff; consider broading ABX for cov
g gram
   neg (and re-culture) if fever recurs
   -central line changed [**6-23**]; old line tip Cx: NG
   -blood, urine Cx pending
   #Volume overload - +5L  [**Location 3741**] actually appears slight dry
 euvolemic
   -goal even for today.
   #Tachycardia
 minimal response to IVF boluses makes volume depletion a
   less likely cause.  Some improvement with increase in metoprolol to
   37.5mg po bid but tachycardia persists.
   - Increase today to metoprolol 37.5 po TID
   - continue telemetry
   #C. diff colitis
 s/p definitive surgical therapy
   -IV flagyl (day 15) for c. diff cov
g, cont. x 14 days beyond tx with
   other ABX
   -contact precautions
   #AFib
 HR still >100
   -lopressor tritrate to 37.5 mg TID today.
   -low-dose ASA for h/o CAD
   -surgery does not wish to restart coumadin.  Patient should have
   coumadin restarted prior to d/c.
   - pt on lisinopril at home; will titrate low dose captopril to
   determine lisinopril dosage
   #Pain control/sedation
 pain well-controlled
   - treat pain with tylenol and morphine
   #F/E/N:
   -repleted K; [**Hospital1 **] lytes while diuresing
   - volume goal even
   - start cardiac regular diet
   -aspiration percautions
   - RISS
   #PPx - SQH, PPI
   #Access
 L IJ (day 4), PIV
   # CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].
   #CODE STATUS: FULL
   #dispo.: transfer to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-27 12:02:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-6-27**] 04:54 AM
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-26**] 08:00 PM
   Metronidazole - [**2141-6-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-6-26**] 09:55 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-27**] 12:31 AM
   Furosemide (Lasix) - [**2141-6-27**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2141-6-27**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 105 (96 - 119) bpm
   BP: 150/59(82) {123/49(69) - 164/81(99)} mmHg
   RR: 29 (25 - 40) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                  1,440 mL
                                                                    333 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                  1,350 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                    470 mL
   Urine:
                                                                    250 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,020 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   840 K/uL
   106 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   14 mg/dL
   110 mEq/L
   145 mEq/L
   29.7 %
   12.0 K/uL
        [image002.jpg]
                             [**2141-6-23**]  03:35 AM
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
                             [**2141-6-24**]  02:26 PM
                             [**2141-6-24**]  07:38 PM
                             [**2141-6-25**]  04:40 AM
                             [**2141-6-25**]  04:00 PM
                             [**2141-6-26**]  06:00 AM
                             [**2141-6-26**]  04:44 PM
                             [**2141-6-27**]  04:17 AM
   WBC
   26.5
   15.8
   14.6
   13.8
   12.0
   Hct
   31.9
   25.2
   27.9
   30.3
   29.7
   Plt
   [**Telephone/Fax (3) 3750**]44
   840
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   29
   28
   Glucose
   117
   97
   91
   105
   97
   102
   106
   Other labs: PT / PTT / INR:16.5/31.4/1.5, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:89.8 %, Band:5.0 %,
   Lymph:5.7 %, Mono:4.1 %, Eos:0.2 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   85 yo female with admission with C. Diff colitis and now s/p resectiopn
   and has shown significant improvement with resolution of sepsis.  To
   surgical service today.
 SHOCK, SEPTIC
   likely from C. diff; post-op
   Flagyl/Vanco
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt; waiting to restart until extubated
 HYPERTENSION, BENIGN
   chronic; on low dose metoprolol post-op; will ptitrate
   -Captopril
 HYPOTHYROIDISM
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   volume overloaded in post-op setting
   ICU Care
   Nutrition: Advance po
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To Floor
   Total time spent: 45 min

2141-06-28 06:57:00 Physician Resident Progress Note
Chief Complaint: volume overload s/p colectomy for C.diff & resulting
   ischemic colitis. resolving line infection
   24 Hour Events:
   remained tachycardic to 120s and tachypneic to 40.  did not send to
   floor b/c thought she would likely trigger.
   increased beta-blocker to 50 tid and d/c'ed captopril to better control
   HR.
   patient got lasix 40 IV x 1 yesterday.
   Subjective:  Patient reports feeling better.  She says her breathing is
   somewhat improved.  Denies CP, f/c.  Having trouble with fine motor
   movements due to resting tremor.  On meds for tremor as outpatient.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-27**] 08:00 PM
   Metronidazole - [**2141-6-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-6-27**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-28**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 118 (93 - 118) bpm
   BP: 99/49(60) {99/43(60) - 161/98(109)} mmHg
   RR: 34 (24 - 41) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                    843 mL
                                                                    100 mL
   PO:
                                                                    110 mL
             TF:
   IVF:
                                                                    733 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    200 mL
   Urine:
                                                                  2,260 mL
                                                                    100 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                 -1,418 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Gen: alert & oriented x3, hoarse voice, SOB with talking
   Lungs: upper airway secretions present but CTA in all lung fields
   CV:  rapid rate, irregular rhythm, s1 & s2 nl, no m/r/g
   Abd: +bs, soft, nt, incision with steri-strips and minimal erythema,
   ostomy patent
   Ext: 1+ pitting edema bilat. Warm, dry.
   Labs / Radiology
   837 K/uL
   9.5 g/dL
   93 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   14 mg/dL
   108 mEq/L
   145 mEq/L
   30.5 %
   13.0 K/uL
        [image002.jpg]
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
                             [**2141-6-24**]  02:26 PM
                             [**2141-6-24**]  07:38 PM
                             [**2141-6-25**]  04:40 AM
                             [**2141-6-25**]  04:00 PM
                             [**2141-6-26**]  06:00 AM
                             [**2141-6-26**]  04:44 PM
                             [**2141-6-27**]  04:17 AM
                             [**2141-6-28**]  03:37 AM
   WBC
   15.8
   14.6
   13.8
   12.0
   13.0
   Hct
   25.2
   27.9
   30.3
   29.7
   30.5
   Plt
   581
   731
   844
   840
   837
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   TCO2
   29
   28
   Glucose
   97
   91
   105
   97
   102
   106
   93
   Other labs: PT / PTT / INR:16.4/30.0/1.4, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:89.8 %, Band:5.0 %,
   Lymph:5.7 %, Mono:4.1 %, Eos:0.2 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: no new
   Microbiology: blood cx - ngtd x6
   cath tip - no growth final.
   urine - yeast.
   Assessment and Plan
 SHOCK, SEPTIC
   likely from C. diff; post-op
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt; waiting to restart until extubated
 HYPERTENSION, BENIGN
   chronic; on low dose metoprolol post-op; will ptitrate
 HYPOTHYROIDISM
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   volume overloaded in post-op setting
   85 y/o female h/o AFib and HTN a/w septic shock, ischemic colitis in
   the setting of recurrent C. diff, POD #16 s/p colectomy & ileostomy,
   volume status improved with diuresis but failure to wean and new fever,
   leukocytosis.
   #Fever/leukocytosis
 WBC down, has not been febrile since AM [**6-23**];
   suspect transient bacteremia from central line; CT torso unrevealing.
   -cont. vanco IV (6/7days) for presumed line infection until culture
   data available; check trough
   -IV flagyl on board for c. diff; consider broading ABX for cov
g gram
   neg (and re-culture) if fever recurs
   -central line changed [**6-23**]; old line tip Cx: NG
   -blood, urine Cx pending
   #Volume overload - +4L  [**Location 3759**] lasix 40 IV x1 today
   -patient takes lasix 40 po daily as outpatient
 consider restarting
   tomorrow am.
   -goal neg 1L today
   #Tachycardia
Some improvement with increase in metoprolol to 50 mg po
   bid but tachycardia persists.
   - Increase today to metoprolol 75 po TID
   - continue telemetry
   #C. diff colitis
 s/p definitive surgical therapy
   -IV flagyl (day 16) for c. diff cov
g, cont. x 14 days beyond tx with
   other ABX
   -contact precautions
   #AFib
 HR still >100
   -lopressor tritrate to 75 mg TID today.
   -low-dose ASA for h/o CAD
   -surgery does not wish to restart coumadin at this time.  Patient
   should have coumadin restarted prior to d/c.
   -d/c
ed captopril to balance HR and BP control
   #Pain control/sedation
 pain well-controlled
   -          treat pain with tylenol and morphine
   #Tremors:  patient having difficulty with fine motor movements of hands
   -          patient on beta blocker
   -          restart primidone 100 mg PO daily
   #F/E/N:
   -repleted K; [**Hospital1 **] lytes while diuresing
   - volume goal even
   - start cardiac regular diet
   -aspiration percautions
   - RISS
   #PPx - SQH, PPI
   #Access
  place 2 PIV and d/c central line
   # CONTACT: HCP is friend [**Name (NI) **] [**Name (NI) 3444**] [**Telephone/Fax (1) 3445**].
   #CODE STATUS: FULL
   #dispo.: transfer to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-28 11:20:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT TO FLOOR
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-27**] 08:00 PM
   Metronidazole - [**2141-6-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-6-27**] 08:09 PM
   Pantoprazole (Protonix) - [**2141-6-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-6-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia, A-Fib
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2141-6-28**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 103 (93 - 118) bpm
   BP: 165/72(97) {99/43(60) - 165/98(109)} mmHg
   RR: 31 (24 - 41) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 95 kg
   Height: 68 Inch
             Total In:
                                                                    843 mL
                                                                    350 mL
   PO:
                                                                    110 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    733 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    200 mL
   Urine:
                                                                  2,260 mL
                                                                    100 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                 -1,418 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   837 K/uL
   93 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   14 mg/dL
   108 mEq/L
   145 mEq/L
   30.5 %
   13.0 K/uL
        [image002.jpg]
                             [**2141-6-24**]  04:30 AM
                             [**2141-6-24**]  10:01 AM
                             [**2141-6-24**]  02:26 PM
                             [**2141-6-24**]  07:38 PM
                             [**2141-6-25**]  04:40 AM
                             [**2141-6-25**]  04:00 PM
                             [**2141-6-26**]  06:00 AM
                             [**2141-6-26**]  04:44 PM
                             [**2141-6-27**]  04:17 AM
                             [**2141-6-28**]  03:37 AM
   WBC
   15.8
   14.6
   13.8
   12.0
   13.0
   Hct
   25.2
   27.9
   30.3
   29.7
   30.5
   Plt
   581
   731
   844
   840
   837
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   TCO2
   29
   28
   Glucose
   97
   91
   105
   97
   102
   106
   93
   Other labs: PT / PTT / INR:16.4/30.0/1.4, CK / CKMB /
   Troponin-T:26/2/<0.01, ALT / AST:12/34, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:17/31, Differential-Neuts:89.8 %, Band:5.0 %,
   Lymph:5.7 %, Mono:4.1 %, Eos:0.2 %, Fibrinogen:508 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.7 g/dL, LDH:200 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: No New
   Microbiology: Blood Culture and cath tip remain negative
   Assessment and Plan
   85 yo female now with improved hemodynamic stability and improved
   respiratory status with diuresis.
 SHOCK, SEPTIC
   likely from C. diff; post-op
   -Vanco(IV)/Flagyl(IV)
   Tachypnea-
   -Patient with some baseline tachypnea now--this is likely related to
   some component of volume overload and persistence of some significant
   respiratory secretions.
   -Lasix to maintain negative fluid balance
   -Chest PT and will have to remain with supplmental O2 in place.
 ATRIAL FIBRILLATION (AFIB)
   on coumadin as out-pt; waiting to restart until extubated
   -Will need continued rate control
 HYPERTENSION, BENIGN
   chronic; on low dose metoprolol post-op; will ptitrate
 HYPOTHYROIDISM
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   volume overloaded in post-op setting
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-23**] 09:00 AM
   Multi Lumen - [**2141-6-23**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes